2130-07-21 06:51:00 Physician Resident Progress Note
Chief Complaint: resp failure
   47yo woman with asthma, obesity and recent Afib with RVR presents with
   hypercarbic resp failure.
   24 Hour Events:
   Patient has been tolerating BiPAP well overnight.
   Subjective:   Patient denies complaints of headache.  She denies pain.
   She denies SOB/CP/F/C.
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-7-21**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.4
C (95.7
   HR: 97 (93 - 107) bpm
   BP: 134/92(102) {126/82(90) - 158/100(112)} mmHg
   RR: 23 (17 - 23) insp/min
   SpO2: 84-92%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    200 mL
                                                                    860 mL
   Urine:
                                                                    200 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -200 mL
                                                                   -860 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 647 (647 - 1,196) mL
   PS : 15 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 86%
   ABG: 7.35/89.[**Numeric Identifier 128**]/50/46/18
   Ve: 7.6 L/min
   PaO2 / FiO2: 100
   Physical Examination
   Gen: alert & oriented x3, NAD, breathing comfortably on BiPAP
   Lungs: expiratory wheezes heard diffusely
   CV:  RRR, s1 & s2 nl, no m/r/g
   ABD: +BS, obese, nt, nd, no masses.
   EXT: warm, well perfused,
   Skin
 burns on back (right shoulder) and anterior left chest from
   previous cardioversion.  Skin lesions are well demarcated with
   superficial ulcerations.  No exudates or erythema.  Dressing was
   changed.  Large ecchymosis over right shoulder from previous insulin
   injection that hit vessel in face of anticoagulation.
   Labs / Radiology
   133 K/uL
   16.2 g/dL
   115 mg/dL
   0.7 mg/dL
   46 mEq/L
   4.5 mEq/L
   21 mg/dL
   90 mEq/L
   142 mEq/L
   56.1 %
   12.6 K/uL
        [image002.jpg]
   u/a -- + blood, urine cx pending
                             [**2130-7-20**]  10:55 PM
                             [**2130-7-21**]  01:47 AM
                             [**2130-7-21**]  02:28 AM
                             [**2130-7-21**]  03:50 AM
   WBC
   12.6
   Hct
   56.1
   Plt
   133
   Cr
   0.7
   TCO2
   48
   52
   51
   Glucose
   115
   Other labs: PT / PTT / INR:38.8/52.0/4.2, Ca++:9.9 mg/dL, Mg++:2.2
   mg/dL, PO4:3.3 mg/dL
   Microbiology: CXR - [**7-21**] rotated to the left.  Increased tissue with
   mediastinum.
   Assessment and Plan
   47yo woman with hypercarbic resp failure.  She is obese so this may be
   obesity hypoventilation.  Appears she was fluid overloaded and in afib
   with RVR so these both may have contributed.  [**Month (only) 60**] also have underlying
   obstructive airway disease which is hindering ventilation.
   # Hypercarbic resp failure: as above.  Her ABG on arrival
   (7.33/87/286/48) suggests that she has a primary respiratory acidosis w
   metabolic alkalosis.  She is adequately ventilated with Ve approx 10L,
   and RR of 24, but patient
s PCO2 remains high.  This indicates that
   patient is likely ventilating dead space.  With her recent aggressive
   diuresis she may be intravasularly volume depleted and have low pulm
   capillary filling pressures.  It is difficult to determine her volume
   status on exam, but she may benefit from some fluid boluses to help
   increase perfusion of dead spaces.
   - support with BiPAP as tolerated
   - can give breaks if pt unable.  Will try high flow O2 with frequent
   nebs during this time.
   - hold on further diuresis for now.
   - treat asthma with scheduled nebs and wean steroids
 steroids she is
   on Pred 40 daily
 continue for 2 more days then wean further.
   - wonder if she will need trach vs intubation if this persists  - give
   her until Monday to declare herself.
   # hypoxia: pt likely hypoxic at baseline as evidenced by her elevated
   HCT.
   - goal SaO2 88-90%
   # Afib: s/p DCCV now in sinus.
   -will d/c digoxin.
   -Continue amio at 400 [**Hospital1 **].
   - hold coumadin for now since elevated INR
 will need 1 month of
   anticoagulation after cardioversion.
   # Cards pump: EF was normal a few days ago per TEE.  Will not diurese
   further.  Suspect though an element of chronic diastolic dysfunction
   leading to pulm edema in setting of fluid overload and Afib w RVR.
   - continue rate control
   - add captopril 6.25 mg TID for afterload reduction.
   - goal i/o even.  if not, will give lasix 40 po
   - continue asa
   # Asthma: as above.  will try continuous nebs between BiPAP trials.
   Wean steroids down to pred 40 for plans of quick taper.
   # Erythrocytosis: likely chronic and indicative of underlying hypoxia.
   # Leukocytosis: suspect [**2-4**] steroids.  Can check urine cx and CXR.
   # Likely Diabetes: A1c elevated to 7.6%.  Continue ISS esp while on
   steroids.
   # anxiety: continue w ativan prn
   # Neuro: right arm neuropathy thought ? [**2-4**] periph nerve damage in
   setting of PICC.  Will do more thorough neuro exam after sorting out
   resp status since this has been ongoing for several days adn I doubt
   anything acute.
   # FEN: advance diet to regular as tolerated.
   #skin:  routine wound care for burns.  Miconazole powder to be applied
   to groin area.
   # access: PIV x1.  Obtain A-line for frequent ABGs.
   # Proph: PPI, bowel regimen, ISS, hold SQH since inr up
   # Comm: pt and her sister [**Name (NI) 263**] [**Telephone/Fax (1) 3675**]
   # Code full, discussed
   # dispo: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-7-20**] 11:00 PM
   22 Gauge - [**2130-7-20**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2130-07-21 09:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure-Acute and Chronic
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with ventilation to PCO2-89 on BIPAP
   7.33/87/286 initially on PSV 15 and FIO2=100%
   Then with BIPAP discontinued and FIO2 weaned->PCO2-99, PO2-50 quite
   quickly
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Psychiatric / Sleep: No(t) Agitated, appropriate
   Flowsheet Data as of  [**2130-7-21**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 94 (90 - 107) bpm
   BP: 139/72(84) {126/53(68) - 158/100(112)} mmHg
   RR: 22 (17 - 23) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  100 mL
   PO:
                  100 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    200 mL
                                                                  1,120 mL
   Urine:
                                                                    200 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -200 mL
                                                                 -1,020 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 370 (370 - 1,196) mL
   PS : 15 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   SpO2: 88%
   ABG: 7.35/89.[**Numeric Identifier 128**]/50/46/18
   Ve: 7.6 L/min
   PaO2 / FiO2: 100
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : Expiratory, Diminished: )
   Abdominal: Soft
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   16.2 g/dL
   133 K/uL
   115 mg/dL
   0.7 mg/dL
   46 mEq/L
   4.5 mEq/L
   21 mg/dL
   90 mEq/L
   142 mEq/L
   56.1 %
   12.6 K/uL
        [image002.jpg]
                             [**2130-7-20**]  10:55 PM
                             [**2130-7-21**]  01:47 AM
                             [**2130-7-21**]  02:28 AM
                             [**2130-7-21**]  03:50 AM
   WBC
   12.6
   Hct
   56.1
   Plt
   133
   Cr
   0.7
   TCO2
   48
   52
   51
   Glucose
   115
   Other labs: PT / PTT / INR:38.8/52.0/4.2, Ca++:9.9 mg/dL, Mg++:2.2
   mg/dL, PO4:3.3 mg/dL
   Imaging: CXR-significant rotation to left and technically limited film
   Assessment and Plan
   47 yo female with history of obesity and chronic hypercarbic
   respiratory failure.  She was admitted with atrial flutter to
   BIDH-[**Location (un) 1415**] and was cardioverted with TEE guidance.  There she also
   had continued diuresis for what may well be related to PAH and cor
   pulmonale.  Now she is transferred to [**Hospital1 54**] in the setting of continued
   difficulty management of chronic ventilatory failure/hypoxemia and
   significant volume overload.
   1)Respiratory Failure-
   The open question is what is an acceptable baseline for Ms. [**Known lastname 3681**] in
   regards to her ventilation.  She has chronic respiratory failure
   secondary to her obesity and likely co-existing intermittent
   hypercarbia during the night with OSA will contribute to resetting of
   her metabolic picture to be one of chronic ventilatory failure and
   metabolic compensation and with intermittent insult of atrial
   tachycardia certainly volume overload  may have been contributing to
   significant worsening around the time of admission.
   As far as management for this
she will need weight loss and should be
   considered for surgical management
and in the interim she will need
   more stable management of her ventilatory compromise.  The increased
   Vd/Vt is likely driving the inadequate ventilation at this point
   (Ve=[**12-17**] but PCO2=89)
and this may well be attributable to residual
   airways obstruction and relative hypovolemia.
   For
Asthma
   Pred 40mg
   Nebs to go q 2 hours for this morning
   For likely Hypovolemia-
   Hold Lasix for now and some volume replacement
   For Hypoxemia-
   This may be chronic issue and the concern is for some ongoing
   minimization of alveolar gas with hypercarbia
no atrial septal defect
   suggested on TEE
   Will need optimization of above to allow time off BIPAP mask and will
   certainly need home treatment
   Will need to consider tracheostomy in light of how patient responds to
   current management and this is of concern as it is not clear that acute
   insult clearly severely exacerbated her chronic ventilatory failure.
   Atrial Fibrillation-
   Amiodarone
   Digoxin
wean to off
   ASA too continue
   Will need further eval of peripheral nerve pain
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin Sliding Scale which may be driven by
   prednisone dosing that will wean
   Lines:
   20 Gauge - [**2130-7-20**] 11:00 PM
   22 Gauge - [**2130-7-20**] 11:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes

2130-07-22 07:49:00 Physician Resident Progress Note
Chief Complaint: hypoxia/hypercarbia
   47yo woman with hypercarbic resp failure.  She is obese so this may be
   obesity hypoventilation.  Appears she was fluid overloaded and in afib
   with RVR so these both may have contributed.  [**Month (only) 60**] also have underlying
   obstructive airway disease which is hindering ventilation.
   24 Hour Events:
 ARTERIAL LINE - START [**2130-7-21**] 02:58 PM  left radial
   Series of lousy ABGs.
   First one taken after restarted on FM...
   pH 7.40 pCO2 70 pO2 42 HCO3 45 BaseXS 14
   Repeated b/c felt low pO2 was an error, and after a little while on FM
   and...
   pH 7.35 pCO2 80 pO2 61 HCO3 46 BaseXS 13
   This morning after being on BIPAP overnight...
   pH 7.34 pCO2 93 pO2 51 HCO3 52 BaseXS 18
   Given 1 L bolus of NS and repeat ABG on FM
   pH 7.37 pCO2 71 pO2 71  HCO3 43
   boil in armpit
 expressed pus from little puntum that was freely
   draining last night.
   Blood in urine; nose bleeds with blowing her nose; a-line bleeding.
   SUBJECTIVE:  Patient reports that her breathing is better.  She is
   concerned about her left arm which was injured after a PICC line
   placement at OSH.  She initially felt tingling in ulnar distribution,
   but now is complaining of pins & needles, numbness, pain and
   hypersensitivity in medial nerve distribution.
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-7-22**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.3
C (95.5
   HR: 92 (85 - 105) bpm
   BP: 97/49(63) {95/49(63) - 160/88(105)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,200 mL
                                                                    500 mL
   PO:
                                                                  1,200 mL
             TF:
   IVF:
   500 mL
   Blood products:
   Total out:
                                                                  3,115 mL
                                                                    820 mL
   Urine:
                                                                  3,115 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,915 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 296 (296 - 443) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 92%
   ABG: 7.34/92.[**Numeric Identifier 1176**]/51/44/18
   Ve: 12.2 L/min
   PaO2 / FiO2: 102
   Physical Examination
   Gen: morbidly obese woman in NAD. Breathing comfortably on FM.
   lungs: scattered expiratory wheezes
   CV: RRR, s1 & s2 nl, no m/r/g
   abd: + bs, non-tender, obese abd, no masses
   Ext: ecchymoses on right and left arms, boil in right armpit,  bleeding
   from suture on arterial line,  blood in foley.
   Neuro: upper extremity: Strength 5/5 bilat (deltoids, biceps, triceps,
   wrist flexion, extension, finger abduction and adduction, grip).
   Decreased sensation to light touch in right thumb, index and middle
   finger.  Propioception intact.
   Labs / Radiology
   129 K/uL
   14.5 g/dL
   106 mg/dL
   0.6 mg/dL
   44 mEq/L
   3.9 mEq/L
   20 mg/dL
   94 mEq/L
   143 mEq/L
   47.7 %
   12.1 K/uL
         [image002.jpg]
                             [**2130-7-20**]  10:55 PM
                             [**2130-7-21**]  01:47 AM
                             [**2130-7-21**]  02:28 AM
                             [**2130-7-21**]  03:50 AM
                             [**2130-7-21**]  03:24 PM
                             [**2130-7-21**]  05:20 PM
                             [**2130-7-21**]  07:11 PM
                             [**2130-7-22**]  04:00 AM
                             [**2130-7-22**]  04:24 AM
   WBC
   12.6
   12.1
   Hct
   56.1
   44
   47.7
   Plt
   133
   129
   Cr
   0.7
   0.6
   0.6
   TCO2
   48
   52
   51
   45
   46
   52
   Glucose
   115
   144
   106
   Other labs: PT / PTT / INR:37.5/36.0/4.0,
   Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   CXR [**7-22**]
 Left CP angle not included on film, low lung volumes.  No
   effusions or infiltrates.
   Assessment and [**Last Name 440**]
   PROBLEM LIST:
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 HYPOXEMIA
 ASTHMA
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   Assessment & Plan:
   47yo woman with h/o of asthma and morbid obesisty who presents with
   hypercarbic resp failure.  She is obese so this may be obesity
   hypoventilation.  Appears she was fluid overloaded and in afib with RVR
   so these both may have contributed.  [**Month (only) 60**] also have underlying
   obstructive airway disease which is hindering ventilation.
   # Hypercarbic resp failure: as above.  Her ABG on arrival
   (7.33/87/286/48) suggests that she has a primary respiratory acidosis w
   metabolic alkalosis.  She is adequately ventilated with Ve approx 10L,
   and RR of 24, but patient
s PCO2 remains high.  This indicates that
   patient is likely ventilating dead space.  With her recent aggressive
   diuresis she may be intravasularly volume depleted and have low pulm
   capillary filling pressures.  Patient
s ABG improved significantly with
   1 L of fluid.  She may continue to may benefit from some fluid boluses
   to help increase perfusion of dead spaces.
   - support with BiPAP as tolerated
 use BIPAP at night
   - can give breaks if pt unable.  Will try high flow O2 with frequent
   nebs during this time.
   - recheck ABG in afternoon and consider giving more fluids then.  GOAL
   PCO2 is 70s.
   - hold on further diuresis for now.
   - treat asthma with scheduled nebs and wean steroids
 steroids she is
   on Pred 40 daily
 continue for 1 more day then wean further.
   - wonder if she will need trach vs intubation if this persists  - give
   her until Monday to declare herself.
   - outpatient referral for bariatric surgery.
   - patient qualifies for BIPAP at home and may benefit significantly
   from this.
   # hypoxia: pt likely hypoxic at baseline as evidenced by her elevated
   HCT.
   - goal SaO2 88-90%
   # Afib: s/p DCCV now in sinus.
   - Continue amio at 400 [**Hospital1 **].
   - hold coumadin for now since elevated INR
 will need 1 month of
   anticoagulation after cardioversion.
   # Bleeding
 oozing from foley, nasal mucosa and lines in the face of
   elevated INR
   -          will give Vit K 10 mg PO now x1 and consider repeating
   tomorrow.
   -          Consider giving FFP if A-line bleeding does not resolve.
   -          Check LFTs
   # Cards pump: EF was normal a few days ago per TEE.  Will not diurese
   further.  Suspect though an element of chronic diastolic dysfunction
   leading to pulm edema in setting of fluid overload and Afib w RVR.
   - continue rate control
   - continue captopril 6.25 mg TID for afterload reduction.
   - goal i/o even.
   - continue asa
   # Neuro: right arm neuropathy thought ? [**2-4**] periph nerve damage in
   setting of PICC.  Sensory loss in median nerve distribution.
   -- OT consult for use of right hand
   -- Curbside neuro re: management of pain
 gabapentin vs. ibuprofen.
   # Asthma: as above.  Continue scheduled nebs.  will try continuous nebs
   between BiPAP trials.  Wean steroids down to pred 40 for plans of quick
   taper.
   # Erythrocytosis: likely chronic and indicative of underlying hypoxia.
   - HCt drop today from 56
 47 due to oozing blood loss from many
   sites.  Will recheck Hct later today.
   # Leukocytosis: suspect [**2-4**] steroids.  Declining.   No signs or
   symptoms of infection
   # Likely Diabetes: A1c elevated to 7.6%.  Continue ISS esp while on
   steroids.
   # anxiety: continue w ativan prn
   # Neuro: right arm neuropathy thought ? [**2-4**] periph nerve damage in
   setting of PICC.
   --
   # FEN: advance diet to regular as tolerated.
   #skin:  routine wound care for burns.  Miconazole powder to be applied
   to groin area.
   # access: PIV x1.  A-line
 use arm board for a-line for now.
   -Obtain 2^nd PIV.
   # Proph: PPI, bowel regimen, ISS, hold SQH since inr up
   # Comm: pt and her sister [**Name (NI) 263**] [**Telephone/Fax (1) 3675**]
   # Code full, discussed
   # dispo: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-7-20**] 11:00 PM
   22 Gauge - [**2130-7-20**] 11:00 PM
   Arterial Line - [**2130-7-21**] 02:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-07-22 09:59:00 Physician Attending Progress Note
Chief Complaint: hypercarbic and hypoxic resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   a-line placed yesterday
   intermitent NVV--BiPAP 10/5 and 50% O2 bleed
   to decrease deadspace fraction and improve with ventilation--> 1 L IVF
   bolused
   ABG improving (7.37/77/71)
   History obtained from Patient, HO
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-7-22**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 92 (85 - 105) bpm
   BP: 97/49(63) {95/49(63) - 160/88(105)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,200 mL
                                                                  1,253 mL
   PO:
                                                                  1,200 mL
                                                                    237 mL
   TF:
   IVF:
   1,016 mL
   Blood products:
   Total out:
                                                                  3,115 mL
                                                                  1,000 mL
   Urine:
                                                                  3,115 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,915 mL
                                                                    253 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 296 (296 - 443) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 95%
   PIP: 10 cmH2O
   SpO2: 89%
   ABG: 7.37/71/71/44/11
   Ve: 12.2 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   scattered exp, Diminished: bases)
   Extremities: tingling R median n distribution, oozing at L aline site
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: verbal
   Movement:purposeful, Tone: Not decreased
   Labs / Radiology
   14.5 g/dL
   129 K/uL
   106 mg/dL
   0.6 mg/dL
   44 mEq/L
   3.9 mEq/L
   20 mg/dL
   94 mEq/L
   143 mEq/L
   47.7 %
   12.1 K/uL
        [image002.jpg]
                             [**2130-7-20**]  10:55 PM
                             [**2130-7-21**]  01:47 AM
                             [**2130-7-21**]  02:28 AM
                             [**2130-7-21**]  03:50 AM
                             [**2130-7-21**]  03:24 PM
                             [**2130-7-21**]  05:20 PM
                             [**2130-7-21**]  07:11 PM
                             [**2130-7-22**]  04:00 AM
                             [**2130-7-22**]  04:24 AM
                             [**2130-7-22**]  08:28 AM
   WBC
   12.6
   12.1
   Hct
   56.1
   44
   47.7
   Plt
   133
   129
   Cr
   0.7
   0.6
   0.6
   TCO2
   48
   52
   51
   45
   46
   52
   43
   Glucose
   115
   144
   106
   Other labs: PT / PTT / INR:37.5/36.0/4.0, Ca++:9.3 mg/dL, Mg++:1.9
   mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: [**5-18**] osh echo - ef 55%
   Imaging: cxr-without obvious inf, L base cut off, full hilar vessels
   Microbiology: urine cx pending
   Assessment and Plan
   47 yo obesie F w/  chronic hypercarbic and hypoxic respiratory
   failure.
   Admitted to OSH with atrial flutter now s/p cardioversion with TEE
   guidance.  There she also had continued diuresis for what may well be
   related to PAH and cor pulmonale.  Now she is transferred to [**Hospital1 54**] in
   the setting of continued difficulty management of chronic ventilatory
   failure/hypoxemia and significant volume overload.
    # Respiratory Failure-hypercarbic/hypoxic
   # Asthma
   She has chronic respiratory failure secondary to her obesity and likely
   co-existing intermittent hypercarbia during the night with OSA will
   contribute to resetting of her metabolic picture to be one of chronic
   ventilatory failure and metabolic compensation and with intermittent
   insult of atrial tachycardia certainly volume overload  may have been
   contributing to significant worsening around the time of admission.
   --Abgs are improving with aim to presumed baseline CO2 levels (liekly
   in 70 torr range)
   BiPAP intermittenly and overnight / high flow shovel mask
   Follow abgs
   Reassess for need for trach
   Would benefit from BIPAP at home for chronic use
   Consider surgical wgt loss
   As far as management for this
she will need weight loss and should be
   considered for surgical management
and in the interim she will need
   more stable management of her ventilatory compromise.  The increased
   Vd/Vt is likely driving the inadequate ventilation at this point
   (Ve=[**12-17**] but PCO2=89)
and this may well be attributable to residual
   airways obstruction and relative hypovolemia.
   Pred 40mg  then taper
   Nebs to go q 2 hours for this morning
   # Coagulopathy from med interactions/coumadin
   Redress a-line
   Vit K
   Consider FFP
   Ultimatley would anticoag X 1 month after cardioversion and might
   consider hep ggt
   # Hypovolemic
   Hold Lasix for now and some volume replacement/po
   #Atrial Fibrillation-
   Amiodarone
   Digoxin
wean to off
   ASA
   #anxiety
ativan
   #hyperglycemia
likely exacerbated by steroids, SSI
   # peripheral nerve pain / numbnesss
liekly inflammatory
   OT/PT
   Consider neuro input, ? need for emg to assess
   # constipation
bowel reg
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2130-7-20**] 11:00 PM
   22 Gauge - [**2130-7-20**] 11:00 PM
   Arterial Line - [**2130-7-21**] 02:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2130-07-23 07:19:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   Pt did not require noninvasive ventilation overnight.  Pt
   symptomatically improved.
   [**2130-7-23**] 05:00 ABG: 7.31/82/56/43 FiO2 80%
   A-line suture site had increased bleeding overnight.  Nonresponsive to
   Surgaseal.  INR 1.3 this am.  Removed suture and taped line down.
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-7-23**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.1
C (97
   HR: 89 (80 - 100) bpm
   BP: 139/66(86) {108/55(72) - 139/69(87)} mmHg
   RR: 22 (19 - 29) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 220.4 kg (admission): 218.2 kg
             Total In:
                                                                  2,625 mL
                                                                     73 mL
   PO:
                                                                  1,464 mL
             TF:
   IVF:
                                                                  1,161 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  3,535 mL
                                                                    695 mL
   Urine:
                                                                  3,535 mL
                                                                    695 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -910 mL
                                                                   -622 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 88%
   ABG: 7.31/81.[**Numeric Identifier 253**]/56/40/10
   PaO2 / FiO2: 112
   Physical Examination
   Gen: NAD, obese, breathing comfortably on facemask
   CV: RRR, no M/R/G
   Lungs: diffuse inspiratory wheezing anteriorly and laterally, posterior
   exam deferred
   Abd: obese, +bs, soft ,ntnd
   Ext: warm, 2+ distal pulses, L wrist still slowly bleeding at site of
   suture for A-line
   Labs / Radiology
   142 K/uL
   14.1 g/dL
   113 mg/dL
   0.6 mg/dL
   40 mEq/L
   3.8 mEq/L
   13 mg/dL
   96 mEq/L
   142 mEq/L
   48.0 %
   10.6 K/uL
        [image002.jpg]
                             [**2130-7-21**]  05:20 PM
                             [**2130-7-21**]  07:11 PM
                             [**2130-7-22**]  04:00 AM
                             [**2130-7-22**]  04:24 AM
                             [**2130-7-22**]  08:28 AM
                             [**2130-7-22**]  05:54 PM
                             [**2130-7-22**]  06:05 PM
                             [**2130-7-22**]  07:08 PM
                             [**2130-7-23**]  04:48 AM
                             [**2130-7-23**]  05:06 AM
   WBC
   12.1
   12.1
   10.6
   Hct
   44
   47.7
   47.4
   48.0
   Plt
   129
   144
   142
   Cr
   0.6
   0.6
   0.6
   TCO2
   46
   52
   43
   45
   43
   43
   Glucose
   144
   106
   113
   Other labs: PT / PTT / INR:14.8/32.5/1.3, ALT / AST:19/21, Alk Phos / T
   Bili:63/0.7, Amylase / Lipase:24/32, Albumin:3.1 g/dL, Ca++:9.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   [**2130-7-21**] Urine Cx: contamination
   [**2130-7-22**] CXR: widened mediastinum persists, large cardiac silhouette,
   patchy areas of opacification in L mid and lower lung zones
   (atelectatic change or developing pneumonia)
   Assessment and Plan
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 HYPOXEMIA
 ASTHMA
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   Assessment & Plan:
   47yo woman with h/o of asthma and morbid obesisty who presents with
   hypercarbic resp failure.  She is obese so this may be obesity
   hypoventilation.  Appears she was fluid overloaded and in afib with RVR
   so these both may have contributed.  [**Month (only) 60**] also have underlying
   obstructive airway disease which is hindering ventilation.
   # Hypercarbic resp failure: as above.  Her ABG on arrival
   (7.33/87/286/48) suggests that she has a primary respiratory acidosis w
   metabolic alkalosis.  She is adequately ventilated with Ve approx 10L,
   and RR of 24, but patient
s PCO2 remains high.  This indicates that
   patient is likely ventilating dead space.  With her recent aggressive
   diuresis she may be intravasularly volume depleted and have low pulm
   capillary filling pressures.  Patient
s ABG improved significantly with
   1 L of fluid.  She may continue to may benefit from some fluid boluses
   to help increase perfusion of dead spaces.
   - support with BiPAP as tolerated
 use BIPAP at night
   - can give breaks if pt unable.  Will try high flow O2 with frequent
   nebs during this time.
   - recheck ABG in afternoon and consider giving more fluids then.  GOAL
   PCO2 is 70s.
   - hold on further diuresis for now.
   - treat asthma with scheduled nebs and wean steroids
 steroids she is
   on Pred 40 daily
 continue for 1 more day then wean further.
   - wonder if she will need trach vs intubation if this persists  - give
   her until Monday to declare herself.
   - outpatient referral for bariatric surgery.
   - patient qualifies for BIPAP at home and may benefit significantly
   from this.
   # hypoxia: pt likely hypoxic at baseline as evidenced by her elevated
   HCT.
   - goal SaO2 88-90%
   # Afib: s/p DCCV now in sinus.
   - Continue amio at 400 [**Hospital1 **].
   - hold coumadin for now since elevated INR
 will need 1 month of
   anticoagulation after cardioversion.
   # Bleeding
 oozing from foley, nasal mucosa and lines in the face of
   elevated INR
   -          will give Vit K 10 mg PO now x1 and consider repeating
   tomorrow.
   -          Consider giving FFP if A-line bleeding does not resolve.
   -          Check LFTs
   # Cards pump: EF was normal a few days ago per TEE.  Will not diurese
   further.  Suspect though an element of chronic diastolic dysfunction
   leading to pulm edema in setting of fluid overload and Afib w RVR.
   - continue rate control
   - continue captopril 6.25 mg TID for afterload reduction.
   - goal i/o even.
   - continue asa
   # Neuro: right arm neuropathy thought ? [**2-4**] periph nerve damage in
   setting of PICC.  Sensory loss in median nerve distribution.
   -- OT consult for use of right hand
   -- Curbside neuro re: management of pain
 gabapentin vs. ibuprofen.
   # Asthma: as above.  Continue scheduled nebs.  will try continuous nebs
   between BiPAP trials.  Wean steroids down to pred 40 for plans of quick
   taper.
   # Erythrocytosis: likely chronic and indicative of underlying hypoxia.
   - HCt drop today from 56
 47 due to oozing blood loss from many
   sites.  Will recheck Hct later today.
   # Leukocytosis: suspect [**2-4**] steroids.  Declining.   No signs or
   symptoms of infection
   # Likely Diabetes: A1c elevated to 7.6%.  Continue ISS esp while on
   steroids.
   # anxiety: continue w ativan prn
   # Neuro: right arm neuropathy thought ? [**2-4**] periph nerve damage in
   setting of PICC.
   --
   # FEN: advance diet to regular as tolerated.
   #skin:  routine wound care for burns.  Miconazole powder to be applied
   to groin area.
   # access: PIV x1.  A-line
 use arm board for a-line for now.
   -Obtain 2nd PIV.
   # Proph: PPI, bowel regimen, ISS, hold SQH since inr up
   # Comm: pt and her sister [**Name (NI) 263**] [**Telephone/Fax (1) 3675**]
   # Code full, discussed
   # dispo: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-7-21**] 02:58 PM
   20 Gauge - [**2130-7-22**] 04:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-07-23 11:05:00 Physician Attending Progress Note
Chief Complaint: hypoxic/hypercarbic resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47 yo obese F w/ chronic hypercarbic and hypoxic respiratory failure.
   24 Hour Events:
   Resp status remains tenuous
   BiPAP not replaced overnight with worsening of ABGs this am
        last ABG--> 7.26/95/64
   Vit K and FFP given yesterday for ongoing oozing from a-line site
   History obtained from Patient, ho
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-7-23**] 08:04 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-7-23**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.1
   HR: 88 (80 - 100) bpm
   BP: 107/49(66) {107/49(66) - 139/67(86)} mmHg
   RR: 23 (18 - 29) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 217.3 kg (admission): 218.2 kg
             Total In:
                                                                  2,625 mL
                                                                  1,488 mL
   PO:
                                                                  1,464 mL
                                                                    370 mL
   TF:
   IVF:
                                                                  1,161 mL
                                                                  1,118 mL
   Blood products:
   Total out:
                                                                  3,535 mL
                                                                  1,010 mL
   Urine:
                                                                  3,535 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -910 mL
                                                                    478 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 90%
   ABG: 7.26/95.[**Numeric Identifier 607**]/64/40/11
   PaO2 / FiO2: 67
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, echymosis, oozing at L a-line site
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   14.1 g/dL
   142 K/uL
   113 mg/dL
   0.6 mg/dL
   40 mEq/L
   3.8 mEq/L
   13 mg/dL
   96 mEq/L
   142 mEq/L
   48.0 %
   10.6 K/uL
        [image002.jpg]
                             [**2130-7-22**]  04:00 AM
                             [**2130-7-22**]  04:24 AM
                             [**2130-7-22**]  08:28 AM
                             [**2130-7-22**]  05:54 PM
                             [**2130-7-22**]  06:05 PM
                             [**2130-7-22**]  07:08 PM
                             [**2130-7-23**]  04:48 AM
                             [**2130-7-23**]  05:06 AM
                             [**2130-7-23**]  09:00 AM
                             [**2130-7-23**]  10:37 AM
   WBC
   12.1
   12.1
   10.6
   Hct
   47.7
   47.4
   48.0
   Plt
   129
   144
   142
   Cr
   0.6
   0.6
   TCO2
   52
   43
   45
   43
   43
   43
   45
   Glucose
   106
   113
   Other labs: PT / PTT / INR:14.8/32.5/1.3, ALT / AST:19/21, Alk Phos / T
   Bili:63/0.7, Amylase / Lipase:24/32, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Imaging: cxr-full hilum, no focal infiltrate
   Microbiology: no new data
   urine cx pending
   Assessment and Plan
   47 yo obese F w/ chronic hypercarbic and hypoxic respiratory failure.
   --Admitted initially to OSH with atrial flutter now s/p cardioversion
   with TEE guidance.  There she was aggressively diureses for what may
   well be related to PAH and cor pulmonale.
   --Transferred to [**Hospital1 54**] in the setting of continued difficulty
   management of chronic ventilatory failure/hypoxemia
   # Respiratory Failure-hypercarbic/hypoxic
   - Suspect chronic respiratory failure secondary to obesity and
   co-existing intermittent hypercarbia during the night with probable
   severe OSA and resetting of her metabolic picture to be one of chronic
   ventilatory failure and metabolic compensation
    - Intermittent insult of atrial tachycardia with volume overload
   likely contributed to significant worsening around the time of
   admission.
   ABG worse this am
 did not wear BiPAP overnight, and likely related to
   OSA/hypoventilation
   --resume bipap now and intermittnely during the day to correct CO2
   toward presumed baseline (70 torr)
   Follow abgs
   Initiated discussions with pt regarding importance of BIPAP at home for
   chronic use, and over course of next 2-3 days would reassess potential
   need for trach
   Surgical wgt loss program will be extremely important part of treatment
   plan
   # Asthma
   Continue pred taper
 30 today
   Nebs and advair
   # Coagulopathy --from med interactions/coumadin, significant oozing at
   a-line site
   INR normalized with vit K and FFP
   Ultimately would anticoag X 1 monthm post- cardioversion, consider hep
   ggt as bridge
   # Hypovolemic --after aggressive diuresis
   Hold Lasix for now
   Allow requilibriation with PO intake
   # Atrial Fibrillation-
   Continue Amiodarone
   ASA
   Anticoag as above
   #anxiety
ativan
   #hyperglycemia
likely exacerbated by steroids, SSI with finger sticks
   # peripheral nerve pain / numbnesss
likely inflammatory related to OSH
   picc line insertion, improving
   OT/PT
   Consider neuro input, ? need for emg to further assess if continues
   # constipation
improving w/ bowel regimen
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-7-21**] 02:58 PM
   20 Gauge - [**2130-7-22**] 04:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2130-07-24 07:10:00 Physician Resident Progress Note
Chief Complaint: hypercarbic respiratory failure
   24 Hour Events:
 URINE CULTURE - At [**2130-7-23**] 09:57 AM
 NON-INVASIVE VENTILATION - START [**2130-7-23**] 11:11 AM
 NON-INVASIVE VENTILATION - STOP [**2130-7-23**] 12:22 PM
 STOOL CULTURE - At [**2130-7-23**] 07:05 PM
   Pt on intermittent BiPAP throughout the day and constant throughout
   night.  No significant change in ABG.
   [**2130-7-24**] 0500: 7.34/79/54/44
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-7-23**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-7-24**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 81 (77 - 101) bpm
   BP: 109/59(74) {107/49(66) - 143/78(98)} mmHg
   RR: 18 (17 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 217.3 kg (admission): 218.2 kg
             Total In:
                                                                  2,610 mL
                                                                    310 mL
   PO:
                                                                  1,310 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,300 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                    375 mL
   Urine:
                                                                  2,850 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -240 mL
                                                                    -65 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 522 (522 - 522) mL
   PS : 8 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 93%
   ABG: 7.34/78.[**Numeric Identifier 244**]/54/40/12
   Ve: 9.2 L/min
   PaO2 / FiO2: 108
   Physical Examination
   Gen: NAD, aao
   CV: RRR, no M/R/G
   Lungs: diffuse mild wheezing on expiration, coarse breathsounds
   throughout L>R
   Abd: obese, soft, +bs, ntnd
   Ext: 2+ pedal and radial pulses, warm, dry
   Labs / Radiology
   126 K/uL
   13.9 g/dL
   108 mg/dL
   0.5 mg/dL
   40 mEq/L
   3.8 mEq/L
   9 mg/dL
   99 mEq/L
   142 mEq/L
   45.5 %
   10.4 K/uL
        [image002.jpg]
                             [**2130-7-23**]  04:48 AM
                             [**2130-7-23**]  05:06 AM
                             [**2130-7-23**]  09:00 AM
                             [**2130-7-23**]  10:37 AM
                             [**2130-7-23**]  12:26 PM
                             [**2130-7-23**]  03:31 PM
                             [**2130-7-23**]  04:10 PM
                             [**2130-7-23**]  10:39 PM
                             [**2130-7-24**]  04:58 AM
                             [**2130-7-24**]  05:16 AM
   WBC
   10.6
   10.4
   Hct
   48.0
   45.9
   45.5
   Plt
   142
   126
   Cr
   0.6
   0.5
   TCO2
   43
   43
   45
   43
   41
   44
   44
   Glucose
   113
   108
   Other labs: PT / PTT / INR:13.5/28.5/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:63/0.7, Amylase / Lipase:24/32, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   [**2130-7-23**] Urine cx: pending
   [**2130-7-23**] C. diff toxin: pending
   Assessment and Plan
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 HYPOXEMIA
 ASTHMA
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   47yo woman with h/o of asthma and morbid obesisty who presents with
   hypercarbic resp failure.  She is obese so this may be obesity
   hypoventilation.  Appears she was fluid overloaded and in afib with RVR
   so these both may have contributed.  [**Month (only) 60**] also have underlying
   obstructive airway disease which is hindering ventilation.
   # Hypercarbic resp failure: as above.  Her ABG on arrival
   (7.33/87/286/48) suggests that she has a primary respiratory acidosis w
   metabolic alkalosis.  She is adequately ventilated with Ve approx 10L,
   and RR of 24, but patient
s PCO2 remains high.  This indicates that
   patient is likely ventilating dead space.  With her recent aggressive
   diuresis she may be intravasularly volume depleted and have low pulm
   capillary filling pressures.  Patient
s ABG improved significantly with
   1 L of fluid.  She may continue to may benefit from some fluid boluses
   to help increase perfusion of dead spaces.
   - support with BiPAP as tolerated
 use BIPAP at night
   - Attempt to use continuously at night;  can give breaks during the day
   if pt unable.   Use high flow O2 with frequent nebs during this time.
   - Limited response to fluids yesterday am.  Will try to keep her
   neutral for the rest of the day.  Will hold boluses and diuresis for
   now.
   - treat asthma with scheduled nebs and wean steroids
 steroids she is
   on Pred 30 daily
 continue for 2 more day then wean further.
   - may need trach vs intubation if patient does not respond to BiPAP or
   refuses it.
   - outpatient referral for bariatric surgery.
   - patient qualifies for BIPAP at home and may benefit significantly
   from this.
   # hypoxia: pt likely hypoxic at baseline as evidenced by her elevated
   HCT.
   - goal SaO2 88-90%
   # Afib: s/p DCCV now in sinus.
   - Continue amio at 400 [**Hospital1 **].
   - hold coumadin for now since elevated INR
 will need 1 month of
   anticoagulation after cardioversion.
   - can start SQH
   # Bleeding
 no active bleeding at this time; will continue to monitor
   foley, mucus membranes and lines.  INR 1.3 this am.
   -  no need for transfusion (blood, plasma, or platelets) at this time
   - monitor Hct, plts, INR daily
   # Cards pump: EF was normal a few days ago per TEE.  Will not diurese
   further.  Suspect though an element of chronic diastolic dysfunction
   leading to pulm edema in setting of fluid overload and Afib w RVR.
   - continue rate control
   - continue captopril 6.25 mg TID for afterload reduction.
   - goal i/o even.
   - continue asa
   # Neuro: right arm neuropathy thought ? [**2-4**] periph nerve damage in
   setting of PICC.  Sensory loss in median nerve distribution.
   Pt states it is slowly improving.
   -- OT consult for use of right hand if it progresses
   -- Curbside neuro re: management of pain
 gabapentin vs. ibuprofen.
   # Asthma: as above.  Continue scheduled nebs.  will try continuous nebs
   between BiPAP trials.  Wean steroids down to pred 40 for plans of quick
   taper.
   # Erythrocytosis: likely chronic and indicative of underlying hypoxia.
   - HCt drop today from 56
 47 due to oozing blood loss from many
   sites.  Will recheck Hct later today.
   # Leukocytosis: suspect [**2-4**] steroids.  Declining.   No signs or
   symptoms of infection
   # Likely Diabetes: A1c elevated to 7.6%.  Continue ISS esp while on
   steroids.
   # anxiety: continue w ativan prn
   # Neuro: right arm neuropathy thought ? [**2-4**] periph nerve damage in
   setting of PICC.
   # FEN: advance diet to regular as tolerated.
   #skin:  routine wound care for burns.  Miconazole powder to be applied
   to groin area.
   # access: PIV x1.  A-line
 use arm board for a-line for now.
   -Obtain 2nd PIV.
   # Proph: PPI, bowel regimen, ISS, start SQH
   # Comm: pt and her sister [**Name (NI) 263**] [**Telephone/Fax (1) 3675**]
   # Code full, discussed
   # dispo: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-7-21**] 02:58 PM
   20 Gauge - [**2130-7-22**] 04:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-07-24 09:35:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   7.34/79/54
   24 Hour Events:
   Patient with limited response to BIPAP support but likely maintaining a
   reasonable chronic respiratory acidosis
   She has tachcardia this morning--likely AVNRT--Dilt 10mg IV given
   without response, minimal change with carotid massage
 URINE CULTURE - At [**2130-7-23**] 09:57 AM
 NON-INVASIVE VENTILATION - START [**2130-7-23**] 11:11 AM
 NON-INVASIVE VENTILATION - STOP [**2130-7-23**] 12:22 PM
 STOOL CULTURE - At [**2130-7-23**] 07:05 PM
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-7-24**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 97 (77 - 101) bpm
   BP: 111/68(82) {109/55(71) - 143/78(98)} mmHg
   RR: 24 (17 - 28) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 217.3 kg (admission): 218.2 kg
             Total In:
                                                                  2,610 mL
                                                                    331 mL
   PO:
                                                                  1,310 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,300 mL
                                                                     91 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                    480 mL
   Urine:
                                                                  2,850 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -240 mL
                                                                   -149 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 522 (522 - 522) mL
   PS : 8 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 88%
   ABG: 7.34/78.[**Numeric Identifier 244**]/54/40/12
   Ve: 9.2 L/min
   PaO2 / FiO2: 108
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Obese
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.9 g/dL
   126 K/uL
   108 mg/dL
   0.5 mg/dL
   40 mEq/L
   3.8 mEq/L
   9 mg/dL
   99 mEq/L
   142 mEq/L
   45.5 %
   10.4 K/uL
        [image002.jpg]
                             [**2130-7-23**]  04:48 AM
                             [**2130-7-23**]  05:06 AM
                             [**2130-7-23**]  09:00 AM
                             [**2130-7-23**]  10:37 AM
                             [**2130-7-23**]  12:26 PM
                             [**2130-7-23**]  03:31 PM
                             [**2130-7-23**]  04:10 PM
                             [**2130-7-23**]  10:39 PM
                             [**2130-7-24**]  04:58 AM
                             [**2130-7-24**]  05:16 AM
   WBC
   10.6
   10.4
   Hct
   48.0
   45.9
   45.5
   Plt
   142
   126
   Cr
   0.6
   0.5
   TCO2
   43
   43
   45
   43
   41
   44
   44
   Glucose
   113
   108
   Other labs: PT / PTT / INR:13.5/28.5/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:63/0.7, Amylase / Lipase:24/32, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR--wide mediastinum, small lung volumes--low lung volumes
   and suggestion of persistent increased pericardial fat
   ECG: HR-144
   narrow complex
   Likely AVRT
   Concern for A-Flutter but fludder waves not clearly seen
   Assessment and Plan
   47 yo female with history of obesity and now admitted with acute on
   chronic respiratory failure after initial presenation with tachycardia.
   Chronic Respiratory Failure with Acute Exacerbation-
   -BIPAP as tolerated
   -Advair
reasonable and much of the expiratory airflow obstruction is
   quite likely related to low lung volumes
   -Albuterol to be held at this time
   -Will certainly need nocturnal BIPAP support and intermittently across
   the day.  She may have a need for better metabolic state to allow
   persistent chronic respiratory failure with compensation.
   -Will likely need trach to allow reasonable/safe support for
   ventilatory status.
   Tachycardia-Had A-fib at OSH--here she had concern for AVNRT or
   A-Flutter
now with intermittent findings of atrial fibrillation
   suggests that we have A-flutter/A-fib persisting
   -Amiodarone continuing
400mg [**Hospital1 **]
   -Dilt as needed for symptomatic tachycardia and move to Dilt gtt this
   am.
   -Will Rx as A-Fib with rate control and consideration of
   anticoagulation and favor return for the long term with anticoagulation
   given A-Fib and DVT risk
   Obesity
   Morbid obesity
   Will need consideration of bariatric surgery to allow intervention and
   correction
   Median Nerve Injury
will need consideration of EMG for follow up, has
   shown improvement over time.
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
   -Appears to have stopped at this time with pressure and INR correction.
 HYPOXEMIA
 ASTHMA
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-7-21**] 02:58 PM
   20 Gauge - [**2130-7-22**] 04:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2130-07-25 06:38:00 Physician Resident Progress Note
Chief Complaint: hypercarbic respiratory failure
   24 Hour Events:
   No events overnight
   Started on diltiazem drip yesterday.  Weaned down to 10mg/hour
   currently.
   [**2130-7-25**] ABG: 7.38/64/67/49
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Diltiazem - [**2130-7-24**] 09:07 AM
   Coumadin (Warfarin) - [**2130-7-24**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2130-7-24**] 09:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-7-25**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.8
C (96.4
   HR: 81 (73 - 146) bpm
   BP: 129/78(93) {80/41(55) - 133/83(293)} mmHg
   RR: 17 (11 - 26) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 217.3 kg (admission): 218.2 kg
             Total In:
                                                                  2,139 mL
                                                                    138 mL
   PO:
                                                                  1,680 mL
             TF:
   IVF:
                                                                    459 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    570 mL
   Urine:
                                                                  1,650 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    489 mL
                                                                   -432 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 706 (476 - 1,376) mL
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 92%
   ABG: 7.38/64/67/40/9
   Ve: 13.3 L/min
   PaO2 / FiO2: 134
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   146 K/uL
   13.5 g/dL
   105 mg/dL
   0.5 mg/dL
   40 mEq/L
   4.0 mEq/L
   9 mg/dL
   99 mEq/L
   143 mEq/L
   44.5 %
   8.7 K/uL
        [image002.jpg]
                             [**2130-7-23**]  03:31 PM
                             [**2130-7-23**]  04:10 PM
                             [**2130-7-23**]  10:39 PM
                             [**2130-7-24**]  04:58 AM
                             [**2130-7-24**]  05:16 AM
                             [**2130-7-24**]  03:02 PM
                             [**2130-7-24**]  06:11 PM
                             [**2130-7-25**]  12:10 AM
                             [**2130-7-25**]  03:53 AM
                             [**2130-7-25**]  04:38 AM
   WBC
   10.4
   8.7
   Hct
   45.9
   45.5
   44.5
   Plt
   126
   146
   Cr
   0.5
   0.5
   TCO2
   41
   44
   44
   39
   38
   38
   39
   Glucose
   108
   105
   Other labs: PT / PTT / INR:13.0/28.4/1.1, ALT / AST:19/21, Alk Phos / T
   Bili:63/0.7, Amylase / Lipase:24/32, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   [**2130-7-23**] C. diff toxin: neg
   [**2130-7-23**] Urine cx: fecal contamination
   Assessment and Plan
   47yo woman with h/o of asthma and morbid obesisty who presents with
   hypercarbic resp failure.  She is obese so this may be obesity
   hypoventilation.  Appears she was fluid overloaded and in afib with RVR
   so these both may have contributed.  [**Month (only) 60**] also have underlying
   obstructive airway disease which is hindering ventilation.
   # Hypercarbic resp failure: as above.  Her ABG on arrival
   (7.33/87/286/48) suggests that she has a primary respiratory acidosis w
   metabolic alkalosis.  She was adequately ventilated with Ve approx 10L,
   and RR of 24, but patient
s PCO2 was high.  This indicates that patient
   is likely ventilating dead space.  With her recent aggressive diuresis
   she may be intravasularly volume depleted and have low pulm capillary
   filling pressures.  Patient
s ABG initially improved significantly with
   1 L of fluid.  However yesterday she did not respond to IVF boluses.
   - Limited response to fluids yesterday am.  Will try to keep her
   neutral for today---hold boluses and diuresis for now.
   - Attempt to use continuously at night;  can give breaks during the day
   if pt unable.   Use high flow O2 with frequent nebs during this time.
   - treat asthma with scheduled nebs and wean steroids
 steroids she is
   on Pred 30 daily
 continue for 1 more day then wean further.
   - may need trach vs intubation if patient does not respond to BiPAP
   - outpatient referral for bariatric surgery.
   - patient qualifies for BIPAP at home and may benefit significantly
   from this.
   # hypoxia: pt likely hypoxic at baseline as evidenced by her elevated
   HCT.
   - goal SaO2 88-90%
   # Afib: s/p DCCV; pt was in sinus until this am when converted back to
   a-fib
   - Continue amio at 400 [**Hospital1 **].
   - Start diltiazem drip; if responsive begin po dilt and wean off the
   drip
   - Start coumadin today. INR 1.2.  Will not bridge with heparin.
   - can continue SQH
   # Bleeding
 no active bleeding at this time; will continue to monitor
   foley, mucus membranes and lines.  INR 1.2 this am.
   -  no need for transfusion (blood, plasma, or platelets) at this time
   - monitor Hct, plts, INR daily
   # Cards pump: EF was normal a few days ago per TEE.  Will not diurese
   further.  Suspect though an element of chronic diastolic dysfunction
   leading to pulm edema in setting of fluid overload and Afib w RVR.
   - continue rate control
   - continue captopril 6.25 mg TID for afterload reduction.
   - goal i/o even.
   - continue asa
   # Neuro: right arm neuropathy thought ? [**2-4**] periph nerve damage in
   setting of PICC.  Sensory loss in median nerve distribution.
   Pt states it is slowly improving.
    -- obtain OT consult for use of right hand if it progresses
   # Asthma: as above.  Continue scheduled nebs.  will try continuous nebs
   between BiPAP trials.  Wean steroids down to pred 30 for plans of quick
   taper.
    # Leukocytosis: suspect [**2-4**] steroids.  Declining.   No signs or
   symptoms of infection
   # Likely Diabetes: A1c elevated to 7.6%.  Continue ISS esp while on
   steroids.
   # anxiety: continue w ativan prn
   # FEN: regular diet
   #skin:  routine wound care for burns.  Miconazole powder to be applied
   to groin area.
   # access: PIV x1.  A-line
 use arm board for a-line for now.
   -Obtain 2nd PIV.
   # Proph: PPI, bowel regimen, ISS, SQH
   # Comm: pt and her sister [**Name (NI) 263**] [**Telephone/Fax (1) 3675**]
   # Code full, discussed
   # dispo: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-7-21**] 02:58 PM
   20 Gauge - [**2130-7-22**] 04:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-07-25 10:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure Acute and Chronic
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   1)Digoxin restarted for recurrent A-Fib
   2)Patient with Diltiazem gtt started for rate control
   3)patient with some improvement in oxygenation with FIO2 increase and
   absence of decrease in saturation with PEEP increase arguing with some
   circumstantial evidence against extrapulmonary shunt which is suggested
   by TEE at OSH as well.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Coumadin (Warfarin) - [**2130-7-24**] 08:00 PM
   Pantoprazole (Protonix) - [**2130-7-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-7-25**] 08:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-7-25**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.1
   HR: 84 (73 - 135) bpm
   BP: 133/86(101) {97/59(75) - 133/86(293)} mmHg
   RR: 21 (11 - 26) insp/min
   SpO2: 90%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 217.3 kg (admission): 218.2 kg
             Total In:
                                                                  2,139 mL
                                                                    366 mL
   PO:
                                                                  1,680 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    459 mL
                                                                    216 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                  1,580 mL
   Urine:
                                                                  1,650 mL
                                                                  1,580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    489 mL
                                                                 -1,214 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 229 (229 - 1,376) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 5037%
   PIP: 0 cmH2O
   SpO2: 90%
   ABG: 7.38/64/67/40/9
   Ve: 13.3 L/min
   PaO2 / FiO2: 134
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : Very much at end exhalation)
Clear E
A change
   in LLL consistent with consolidation
   Abdominal: Soft, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.5 g/dL
   146 K/uL
   105 mg/dL
   0.5 mg/dL
   40 mEq/L
   4.0 mEq/L
   9 mg/dL
   99 mEq/L
   143 mEq/L
   44.5 %
   8.7 K/uL
        [image002.jpg]
                             [**2130-7-23**]  03:31 PM
                             [**2130-7-23**]  04:10 PM
                             [**2130-7-23**]  10:39 PM
                             [**2130-7-24**]  04:58 AM
                             [**2130-7-24**]  05:16 AM
                             [**2130-7-24**]  03:02 PM
                             [**2130-7-24**]  06:11 PM
                             [**2130-7-25**]  12:10 AM
                             [**2130-7-25**]  03:53 AM
                             [**2130-7-25**]  04:38 AM
   WBC
   10.4
   8.7
   Hct
   45.9
   45.5
   44.5
   Plt
   126
   146
   Cr
   0.5
   0.5
   TCO2
   41
   44
   44
   39
   38
   38
   39
   Glucose
   108
   105
   Other labs: PT / PTT / INR:13.0/28.4/1.1, ALT / AST:19/21, Alk Phos / T
   Bili:63/0.7, Amylase / Lipase:24/32, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR-Improved ventilation of LLL region.
   Assessment and Plan
   47 yo female with obesity and significant hypoventilation and
   hypoxemia.  She has had a minimum of dynamic airflow obstruction.
   Respiratory Failure-
   Chronic Obstruction--This is existing diagnosis--are weaning Prednisone
   and contining Advair with reasonably minimal risk in the setting of
   acute illness although obstruction is likley related to low lung
   volumes primarily.  The consolidation and shunt is quite likely the
   primary driver of the hypoxemia given testing and evaluation to date.
   She will need
   -[**Hospital1 **]-Level Support with EEP in the range of 10-15cm H2O.  This should be
   well tolerated in this relatively euvolemic state
   -Will need to match her intrapleural pressure which is quite likely
   elevated significantly
   -Goal [**Hospital1 **]-Level support is 20/12 by the end of the day with good
   tolerance
   -She has to get out of bed to obtain mechanical advantage to facilitate
   recruitment of lung units
   Atrial Fibrillation-
   -Digoxin
   -Diltiazem gtt continuing at 15
   -Will need anticoagulation and rate control as management
   -Trial of beta blocker if needed as primary intevention for rate
   control as primary bronchospasm is likely less of a concern given
   obsity and restriction likely driving the wheezing
   Nerve Injury-
   -Has worsening pain and discomfort
   -Neurology consultation to evaluate and consider studies.
   -Question is management and diagnosis of ulnar nerve injury in setting
   of PICC line placement
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 HYPOXEMIA
 ASTHMA
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-7-21**] 02:58 PM
   20 Gauge - [**2130-7-22**] 04:17 PM
   Prophylaxis:
   DVT: Boots. Sq Hepain and Coumadin restart
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2130-07-26 06:51:00 Physician Resident Progress Note
Chief Complaint: hypercarbic respiratory failure
   24 Hour Events:
   Discontinued Dilt drip, started dilt 60mg QID po
   Out of bed to chair
   Increased PEEP on nonivasive ventilation
   Neuro consult: medial nerve injury; obtain CT scan to evaluate for clot
   or blood collection impinging on nerve
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-7-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-7-25**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-7-26**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 90 (85 - 94) bpm
   BP: 110/58(73) {110/58(73) - 145/88(105)} mmHg
   RR: 19 (17 - 21) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 217.3 kg (admission): 218.2 kg
                  Total In:
                                                                  1,368 mL
                  PO:
                                                                    880 mL
                  TF:
   IVF:
                                                                    488 mL
   Blood products:
   Total out:
                                                                  3,430 mL
                                                                    450 mL
   Urine:
                                                                  3,430 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,062 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 707 (0 - 1,175) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 91%
   ABG: 7.43/56/64/36/10
   Ve: 11.1 L/min
   PaO2 / FiO2: 128
   Physical Examination
   Gen: NAD, on facemask
   CV: RRR, no M/R/G
   Lungs: very mild wheezing bilaterally, decreased breath sounds at
   posterior bases L>R
   Abd: obese, +bs, ntnd, persistent bleeding from SQH injection site LLQ
   Ext: mild weakness in R hand grip, admitts to increased numbness and
   discomfort in R hand,  all extremities warm, dry, 2+ distal pulses
   Labs / Radiology
   160 K/uL
   13.6 g/dL
   112 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.9 mEq/L
   12 mg/dL
   94 mEq/L
   139 mEq/L
   45.4 %
   9.3 K/uL
        [image002.jpg]
                             [**2130-7-23**]  10:39 PM
                             [**2130-7-24**]  04:58 AM
                             [**2130-7-24**]  05:16 AM
                             [**2130-7-24**]  03:02 PM
                             [**2130-7-24**]  06:11 PM
                             [**2130-7-25**]  12:10 AM
                             [**2130-7-25**]  03:53 AM
                             [**2130-7-25**]  04:38 AM
                             [**2130-7-25**]  01:13 PM
                             [**2130-7-26**]  05:37 AM
   WBC
   10.4
   8.7
   9.3
   Hct
   45.5
   44.5
   45.4
   Plt
   126
   146
   160
   Cr
   0.5
   0.5
   0.7
   TCO2
   44
   44
   39
   38
   38
   39
   38
   Glucose
   108
   105
   112
   Other labs: PT / PTT / INR:13.0/28.4/1.1, ALT / AST:19/21, Alk Phos / T
   Bili:63/0.7, Amylase / Lipase:24/32, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:9.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   [**2130-7-23**] C. diff toxin: neg
   [**2130-7-23**] Urine cx: contamination
   Assessment and Plan
   47yo woman with h/o questionable asthma and morbid obesity who presents
   with hypercarbic resp failure.  She is obese so this may be obesity
   hypoventilation.  Appears she was fluid overloaded and in afib with RVR
   so these both may have contributed.  [**Month (only) 60**] also have underlying
   obstructive airway disease which is hindering ventilation.
   # Hypercarbic resp failure:  hypoventilation; symptomatically improved
   with upright position and increased PEEP
   - Attempt to use BiPAP continuously at night; can give breaks during
   the day if pt unable.   Use high flow O2 with frequent nebs during this
   time.
   - diagnosis of asthma is questionable; continue with scheduled nebs
   (xopenex due to tachy on albuterol) and wean steroids
 to 10mg daily x
   2 days
   - may need trach vs intubation if patient does not respond to BiPAP
   - outpatient referral for bariatric surgery.
   - patient qualifies for BIPAP at home and may benefit significantly
   from this.
   # hypoxia: pt likely hypoxic at baseline as evidenced by her elevated
   HCT,  hypoxia likely increased by atelectasis;
   - patient to sit up in chair; increase PEEP
   - goal SaO2 88-90%
   # Afib: s/p DCCV; pt was in sinus until [**2130-7-24**] when converted back to
   a-fib
   - Continue amio at 400 [**Hospital1 **].
   - Continue digoxin 0.125 (check level on Thursday [**7-27**])
   - Pt minimally responsive to diltiazem; will switch to metoprolol
   37.5mg po TID and titrate for rate control
   - Continue coumadin INR 1.2.  Will start bridge with heparin
no loading
   dose.
   - can d/c SQH
   # Bleeding
 no active bleeding at this time; will continue to monitor
   foley, mucus membranes and lines.  INR 1.2 this am.
   -  no need for transfusion (blood, plasma, or platelets) at this time
   - monitor Hct, plts, INR daily
   # Cards pump: EF was normal a few days ago per TEE.  Will not diurese
   further.  Suspect though an element of chronic diastolic dysfunction
   leading to pulm edema in setting of fluid overload and Afib w RVR.
   - rate control with metoprolol
   - continue captopril 12.5 mg TID for afterload reduction.
   - goal i/o : negative but is autodiuresing; will not start lasix
   - continue asa
   # Neuro: right arm neuropathy thought ? [**2-4**] periph nerve damage in
   setting of PICC.  Sensory loss in median nerve distribution.
   Pt states it is worse this morning.
   -- obtain CT scan today
   # Likely Diabetes: A1c elevated to 7.6%.  Continue ISS esp while on
   steroids.
   # anxiety: continue w ativan prn
   # FEN: regular diet
   #skin:  routine wound care for burns.  Miconazole powder to be applied
   to groin area.
   # access: PIV x1.  A-line
 use arm board for a-line for now.
   # Proph: PPI, bowel regimen, ISS
   # Comm: pt and her sister [**Name (NI) 263**] [**Telephone/Fax (1) 3675**]
   # Code full, discussed
   # dispo: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-7-21**] 02:58 PM
   20 Gauge - [**2130-7-25**] 10:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-07-26 10:45:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2130-7-25**] 07:35 PM
   Patient out of bed to chair and BIPAP with reasonable response in terms
   of ventilation
   Neuro in to eval patient with recommendation for evaluation with CT to
   consider possible hematoma
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-7-26**] 08:23 AM
   Heparin Sodium (Prophylaxis) - [**2130-7-26**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-7-26**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.4
   HR: 84 (84 - 95) bpm
   BP: 116/59(75) {110/58(73) - 145/88(105)} mmHg
   RR: 20 (16 - 21) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 217.3 kg (admission): 218.2 kg
                  Total In:
                                                                  1,368 mL
                                                                     50 mL
   PO:
                                                                    880 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    488 mL
   Blood products:
   Total out:
                                                                  3,430 mL
                                                                    584 mL
   Urine:
                                                                  3,430 mL
                                                                    584 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,062 mL
                                                                   -534 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 707 (0 - 1,175) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: 7.43/56/64/36/10
   Ve: 11.1 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Obese, Bleeding from injection site
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.6 g/dL
   160 K/uL
   112 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.9 mEq/L
   12 mg/dL
   94 mEq/L
   139 mEq/L
   45.4 %
   9.3 K/uL
        [image002.jpg]
                             [**2130-7-23**]  10:39 PM
                             [**2130-7-24**]  04:58 AM
                             [**2130-7-24**]  05:16 AM
                             [**2130-7-24**]  03:02 PM
                             [**2130-7-24**]  06:11 PM
                             [**2130-7-25**]  12:10 AM
                             [**2130-7-25**]  03:53 AM
                             [**2130-7-25**]  04:38 AM
                             [**2130-7-25**]  01:13 PM
                             [**2130-7-26**]  05:37 AM
   WBC
   10.4
   8.7
   9.3
   Hct
   45.5
   44.5
   45.4
   Plt
   126
   146
   160
   Cr
   0.5
   0.5
   0.7
   TCO2
   44
   44
   39
   38
   38
   39
   38
   Glucose
   108
   105
   112
   Other labs: PT / PTT / INR:13.5/29.0/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:63/0.7, Amylase / Lipase:24/32, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:9.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR--Patient with substantial improvement in lung volumes and
   return of Left hemi-diaphragm visualizatoin consistent with some
   significant recruitment of lung volumes.
   Assessment and Plan
   47 yo female with chronic ventilatory failure and now with continued
   persistent failure and now with some suggestion of improvement in the
   setting increased efforts at facilitating oxygenation and ventilatory
   support.  With stability in the setting of increased end expiratory
   pressures return to diuresis is reasonable.
   Respiratory Failure
With Ve decreased to 11 she has mainteined Pco2=56
   which represents a significant improvement in effective ventilation.
   Her metabolic alkalosis which was driving a signifcant portion of the
   hypercarbia and was secondary to contraction alkalosis has been
   improved.
   -OOB
Chair
   -BIPAP 15/10 is goal
   -Will wean prednisone to off over the next two days
   -Ambulation today if HR stable
   -Nebs PRN only as goal
   -She has shown improvement
   Atrial Fibrillation-
   Digoxin
   Amiodarone
   Coumadin
will need to return to anticoagulation which was held in the
   setting of elevated INR and patient with diffuse bleeding.
   Lopressor 37.5 tid to be started
   Right Heart Failure-
   -This is of significant concern in this setting and will continue with
   negative fluid balance as we move forward.
   Median Nerve Injury-
   -CT scan results to follow up.
   -Pain control with Neurontin
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 HYPOXEMIA
 ASTHMA
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-7-21**] 02:58 PM
   20 Gauge - [**2130-7-25**] 10:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2130-07-27 06:52:00 Physician Resident Progress Note
Chief Complaint: respiratory distress
   24 Hour Events:
   Spent most of the day without BIPAP and maintained O2 sats.  She slept
   for only 3am-6am  with bipap.
   ABG on 5L NC 7.36/63/60/37 this am.
   UOP >150 cc/hr.
   OOB to chair much of the day
   Subjective:
   Patient feels well.  She thinks her SOB is improving.  She does not
   feel the nebs are helping her.   Denies problems with epistaxis, oozing
   blood around a-line, other bleeding problems
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-7-26**] 08:23 AM
   Heparin Sodium (Prophylaxis) - [**2130-7-26**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-7-27**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 89 (82 - 150) bpm
   BP: 135/85(102) {112/59(75) - 142/89(102)} mmHg
   RR: 17 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 217.3 kg (admission): 218.2 kg
             Total In:
                                                                    744 mL
                                                                    114 mL
   PO:
                                                                    490 mL
             TF:
   IVF:
                                                                    254 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  2,594 mL
                                                                    840 mL
   Urine:
                                                                  2,594 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,850 mL
                                                                   -726 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 721 (716 - 721) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.36/63/60/36/7
   Ve: 13.3 L/min
   PaO2 / FiO2: 120
   Physical Examination
   Gen: obese, lying in bed, nad
   Lungs; CTA in all lung fields
   CV: irregular rhythm, regular rate, s1 & s2 nl, no m/r/g
   Abd: + bs, nontender, non distended, obese.
   Ext: 2+ pitting edema to knee, no cyanosis, clubbing
   Labs / Radiology
   172 K/uL
   13.9 g/dL
   123 mg/dL
   0.6 mg/dL
   36 mEq/L
   3.9 mEq/L
   10 mg/dL
   102 mEq/L
   142 mEq/L
   45.1 %
   10.6 K/uL
        [image002.jpg]
                             [**2130-7-24**]  03:02 PM
                             [**2130-7-24**]  06:11 PM
                             [**2130-7-25**]  12:10 AM
                             [**2130-7-25**]  03:53 AM
                             [**2130-7-25**]  04:38 AM
                             [**2130-7-25**]  01:13 PM
                             [**2130-7-26**]  05:37 AM
                             [**2130-7-26**]  10:00 PM
                             [**2130-7-27**]  02:27 AM
                             [**2130-7-27**]  02:45 AM
   WBC
   8.7
   9.3
   10.6
   Hct
   44.5
   45.4
   45.1
   Plt
   146
   160
   172
   Cr
   0.5
   0.7
   0.6
   TCO2
   39
   38
   38
   39
   38
   37
   Glucose
   105
   112
   104
   123
   Other labs: PT / PTT / INR:14.2/89.4/1.2,
   ALT / AST:19/21, Alk Phos / T Bili:63/0.7, Amylase / Lipase:24/32,
   Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL,
   Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Imaging: CT of upper ext [**2130-7-26**]
   No prelim read
   CXR [**2130-7-27**]
   Smaller lung volumes.  Looks hazzier in the LLL but likley [**2-4**]
   ateletasis rather than infiltrate.
   Microbiology: urine cx contaminated x2
   c. diff neg from [**7-24**]
   Problem [**Name (NI) **]:
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 HYPOXEMIA
 ASTHMA
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   Assessment & Plan:
   47yo woman with h/o questionable asthma and morbid obesity who presents
   with hypercarbic resp failure.  She is obese so this may be obesity
   hypoventilation.  Appears she was fluid overloaded and in afib with RVR
   so these both may have contributed.  [**Month (only) 60**] also have underlying
   obstructive airway disease which is hindering ventilation.
   # Hypercarbic resp failure:  hypoventilation; symptomatically improved
   with upright position and increased PEEP
   - Attempt to use BiPAP continuously at night; can give breaks during
   the day if pt unable.   Will optimize BIPAP settings tonight and get an
   AM ABG in order to rec settings to outside hospital.
   - diagnosis of asthma is questionable; switch nebs to PRN (xopenex due
   to tachy on albuterol & ipatropiium)  and wean steroids to 10mg daily x
   1 more day then off.
   - outpatient referral for bariatric surgery.
   - patient qualifies for BIPAP at home and may benefit significantly
   from this.
   - work with PT today get OOB and ambulate and monitor resp status while
   ambulating.
   # hypoxia: pt likely hypoxic at baseline as evidenced by her elevated
   HCT,  hypoxia likely increased by atelectasis;
   - patient to sit up in chair; increase PEEP
   - goal SaO2 88-90%
   # Afib: s/p DCCV; pt was in sinus until [**2130-7-24**] when converted back to
   a-fib
   - Continue amio at 400 [**Hospital1 **] and change to 400mg PO daily tomorrow.
   - Continue digoxin 0.125 (check level on Thursday [**7-27**])
   - Pt minimally responsive to diltiazem; will switch to metoprolol
   37.5mg po TID and titrate for rate control
   - Continue coumadin ([**7-24**] restarted, increased dose to 10mg yesterday)
    -- INR 1.2.  Continue heparin gtt.  Monitor coags.
   # Bleeding
 no active bleeding at this time; will continue to monitor
   foley, mucus membranes and lines.  INR 1.2 this am.
   -  no need for transfusion (blood, plasma, or platelets) at this time
   - monitor Hct, plts, INR daily
   # Cards pump: EF was normal a few days ago per TEE.  Will not diurese
   further.  Suspect though an element of chronic diastolic dysfunction
   leading to pulm edema in setting of fluid overload and Afib w RVR.
   - rate control with metoprolol
   - continue captopril 12.5 mg TID for afterload reduction.
   - goal i/o : negative but is autodiuresing; will not start lasix
   - continue asa
   # Neuro: right arm neuropathy thought ? [**2-4**] periph nerve damage in
   setting of PICC.  Sensory loss in median nerve distribution.
   Pt states it is worse this morning.
   -- obtain CT scan today
 results pending (follow up)
   # anxiety: continue w ativan prn
   # FEN: regular diet
   #skin:  routine wound care for burns.  Miconazole powder to be applied
   to groin area.
   # access: PIV x1.  A-line
 use arm board for a-line for now.
   # Proph: PPI, bowel regimen, Hep gtt
   # Comm: pt and her sister [**Name (NI) 263**] [**Telephone/Fax (1) 3675**]
   # Code full, discussed
   # dispo: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-7-21**] 02:58 PM
   20 Gauge - [**2130-7-25**] 10:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-07-27 11:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure-Acute on Chronic
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Pt with PCO2-63
   BIPAP x 3 hours this am
   Good improvement in dyspnea
   2 liters negative fluid balance
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2130-7-27**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 89 (79 - 114) bpm
   BP: 99/63(75) {99/63(75) - 142/89(102)} mmHg
   RR: 21 (13 - 25) insp/min
   SpO2: 90%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 217.3 kg (admission): 218.2 kg
             Total In:
                                                                    744 mL
                                                                    292 mL
   PO:
                                                                    490 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    254 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  2,594 mL
                                                                  1,000 mL
   Urine:
                                                                  2,594 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,850 mL
                                                                   -708 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 721 (716 - 721) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   PIP: 11 cmH2O
   SpO2: 90%
   ABG: 7.36/63/60/36/7
   Ve: 13.3 L/min
   PaO2 / FiO2: 120
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.9 g/dL
   172 K/uL
   123 mg/dL
   0.6 mg/dL
   36 mEq/L
   3.9 mEq/L
   10 mg/dL
   102 mEq/L
   142 mEq/L
   45.1 %
   10.6 K/uL
        [image002.jpg]
                             [**2130-7-24**]  03:02 PM
                             [**2130-7-24**]  06:11 PM
                             [**2130-7-25**]  12:10 AM
                             [**2130-7-25**]  03:53 AM
                             [**2130-7-25**]  04:38 AM
                             [**2130-7-25**]  01:13 PM
                             [**2130-7-26**]  05:37 AM
                             [**2130-7-26**]  10:00 PM
                             [**2130-7-27**]  02:27 AM
                             [**2130-7-27**]  02:45 AM
   WBC
   8.7
   9.3
   10.6
   Hct
   44.5
   45.4
   45.1
   Plt
   146
   160
   172
   Cr
   0.5
   0.7
   0.6
   TCO2
   39
   38
   38
   39
   38
   37
   Glucose
   105
   112
   104
   123
   Other labs: PT / PTT / INR:14.2/103.1/1.2, ALT / AST:19/21, Alk Phos /
   T Bili:63/0.7, Amylase / Lipase:24/32, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR--Some suggestion of worsening left lower lobe
   atelectatsis.
   Assessment and Plan
   47 yo female with obesity hypoventilation and chronic respiratory
   failure now showing substantial improvement with reasonable rate
   control of atrial fibrillationa and she has had optimization of volume
   status and ventilatory support.  In this setting she has had a
   reasonable response to non-invasive ventilation and optimization of her
   volume status and with control of A-fib we have establised reasonable
   baseline status for hypoventilation and atrial arrhythmia.
   For treatment will
   1)Atrial Fibrillation-
   Amiodarone
   Lopressor
   Captopril
   Heparin gtt
   2)Respiratory Failure-
   -Needs BIPAP at 15/10 and morning ABG to confirm optimal settings
   -Will need to be up and ambulate today
   -Will minimize
   -Advair
   -Prednisone weaning to off
   -PT today
   -Ideally move to floor and rehab tomorrow if response reasonable.
   -Continue negative fluid balance which adequate ventilation and
   oxygenation has likely permitted.
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 HYPOXEMIA
 ASTHMA
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-7-21**] 02:58 PM
   20 Gauge - [**2130-7-25**] 10:20 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35

2130-07-28 07:19:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
   Patietn slept went on BIPAP of 15/5 and tolerated well
 noticed
   leaking of air around face mask.
   morning ABG after 6-7 hrs of BiPAP O/N
                                     pH
                                    7.29
                                    pCO2
                                     78
                                     pO2
                                     97
                                    HCO3
                                     39
                                   BaseXS
                                      7
   Yesterday ABG with only 3 hrs on bipap over 24 hrs.
                                     pH
                                    7.36
                                    pCO2
                                     63
                                     pO2
                                     60
                                    HCO3
                                     37
                                   BaseXS
                                      7
   Worked with PT -- good strength and balance & coordination.
   would like to test her resp status more with with stairs and increased
   walking.
   Patient tolerated session well.
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,850 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-7-28**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.8
C (96.5
   HR: 90 (76 - 109) bpm
   BP: 129/68(89) {108/40(58) - 132/73(89)} mmHg
   RR: 20 (16 - 27) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 217.3 kg (admission): 218.2 kg
             Total In:
                                                                    797 mL
                                                                    367 mL
   PO:
                                                                    480 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    317 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  2,255 mL
                                                                    555 mL
   Urine:
                                                                  2,255 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,458 mL
                                                                   -188 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 4-5L
   Physical Examination
   Gen: obese, lying in bed, nad
   Lungs; CTA in all lung fields
   CV: irregular rhythm, regular rate, s1 & s2 nl, no m/r/g
   Abd: + bs, nontender, non distended, obese.
   Ext: 2+ pitting edema to knee, no cyanosis, clubbing, large areas of
   purpura on arms, burn on back is clean & healing well
   Labs / Radiology
   177 K/uL
   13.9 g/dL
   123 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.0 mEq/L
   10 mg/dL
   101 mEq/L
   145 mEq/L
   45.9 %
   8.7 K/uL
        [image002.jpg]
                             [**2130-7-25**]  12:10 AM
                             [**2130-7-25**]  03:53 AM
                             [**2130-7-25**]  04:38 AM
                             [**2130-7-25**]  01:13 PM
                             [**2130-7-26**]  05:37 AM
                             [**2130-7-26**]  10:00 PM
                             [**2130-7-27**]  02:27 AM
                             [**2130-7-27**]  02:45 AM
                             [**2130-7-28**]  05:06 AM
                             [**2130-7-28**]  05:35 AM
   WBC
   8.7
   9.3
   10.6
   8.7
   Hct
   44.5
   45.4
   45.1
   45.9
   Plt
   146
   160
   172
   177
   Cr
   0.5
   0.7
   0.6
   0.7
   TCO2
   38
   39
   38
   37
   39
   Glucose
   105
   112
   104
   123
   123
   Other labs: PT / PTT / INR:18.4/126.8/1.7, ALT / AST:19/21, Alk Phos /
   T Bili:63/0.7, Amylase / Lipase:24/32, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL,
   Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:5.0 mg/dL
   Imaging: CT upper ext - still unread
   CXR [**2130-7-28**] - lung vol low.  hazziness in RLL & LLL stable from
   previous -- likely atelectasis.
   Microbiology: no new.
   Assessment and Plan
   Problems:
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 HYPOXEMIA
 ASTHMA
   A/P:
   47yo woman with h/o questionable asthma and morbid obesity who presents
   with hypercarbic resp failure.  She is obese so this may be obesity
   hypoventilation.  Appears she was fluid overloaded and in afib with RVR
   so these both may have contributed.  [**Month (only) 60**] also have underlying
   obstructive airway disease which is hindering ventilation.
   # Hypercarbic resp failure:  hypoventilation; symptomatically improved
   with upright position and increased PEEP
   - Attempt to use BiPAP continuously at night.  On BIPAP setting of 15/5
   oxygenation is substantially improved.   Patient
s ABG reveals a
   respiratory acidosis with appropriate chronic renal compensation.
   Patient likely at baseline.  The thought is that with improved
   oxygenation at night she will continue to auto-diurese and continue to
   improve resp status.
   - Also will try different face masks today to see if another one will
   fit better and perhaps improve/
   -patient may also ventilate more effectively if she sleeps on her side.
   - diagnosis of asthma is questionable; switch nebs to PRN (xopenex due
   to tachy on albuterol & ipatropiium)  and wean steroids to 10mg daily
   last does today.
   - outpatient referral for bariatric surgery.
   - patient qualifies for BIPAP at home and may benefit significantly
   from this.
   - work with PT today get OOB and ambulate and monitor resp status while
   ambulating.
   # hypoxia: pt likely hypoxic at baseline as evidenced by her elevated
   HCT,  hypoxia improved o/n with bipap
   - patient to sit up in chair; increase PEEP
   - goal SaO2 88-90%
   # Afib: s/p DCCV; pt was in sinus until [**2130-7-24**] when converted back to
   a-fib
   - Change amio to 400mg PO daily tomorrow.
   - Continue digoxin 0.125 (check level on Thursday [**7-27**])
   - Continue metoprolol 37.5mg po TID
   - Continue coumadin ([**7-24**] restarted, increased dose to 10mg 2 days
   ago)  -- INR 1.7.  Continue heparin gtt.  Monitor coags.
   - Fine tune hep gtt settings today to  keep PTT in range more of the
   time.
   # Bleeding
 no active bleeding at this time; will continue to monitor
   foley, mucus membranes and lines.
   -  no need for transfusion (blood, plasma, or platelets) at this time
   - monitor Hct, plts, INR daily
   # Cards pump: EF was normal a few days ago per TEE.  Will not diurese
   further.  Suspect though an element of chronic diastolic dysfunction
   leading to pulm edema in setting of fluid overload and Afib w RVR.
   - rate control with metoprolol
   - continue captopril 12.5 mg TID for afterload reduction.
   - goal i/o : 2L negative/ day, but is autodiuresing with improved
   oxygenation; will not start lasix
   - continue asa
   # Neuro: right arm neuropathy thought ? [**2-4**] periph nerve damage in
   setting of PICC.  Sensory loss in median nerve distribution.
   Pt states it is worse this morning.
   -- obtain CT scan today
 results pending (follow up)
   # anxiety: continue w ativan prn
   # FEN: regular diet
   #skin:  routine wound care for burns.  Miconazole powder to be applied
   to groin area.
   # access: PIV x1.  A-line
 use arm board for a-line for now.
   # Proph: PPI, bowel regimen, Hep gtt
   # Comm: pt and her sister [**Name (NI) 263**] [**Telephone/Fax (1) 3675**]
   # Code full, discussed
   # dispo: ICU for now.  Follow up w/ case management re: criteria for
   pulm rehab vs. transfer to the floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-7-21**] 02:58 PM
   20 Gauge - [**2130-7-25**] 10:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-07-28 10:09:00 Physician Attending Progress Note
Chief Complaint: hypercarbia and hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47F with morbid obesity, likely cardiomyopathy, afib, and hypercarbic
   and hypoxic respiratory failure despite adequate diuresis at [**Location (un) **]:
   24 Hour Events:
   -worked with PT yesterday
   -15/5 bipap overnight, tolerated OK
   -abg today with better O2 but also worse CO2
   -continues to autodiurese
   History obtained from Patient
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, Rash, bruising
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, Coagulopathy, on
   heparin/coumadin
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure,
   arm pain
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2130-7-28**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.8
C (96.5
   HR: 82 (76 - 109) bpm
   BP: 114/70(83) {93/63(63) - 157/152(332)} mmHg
   RR: 16 (7 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 217.3 kg (admission): 218.2 kg
             Total In:
                                                                    797 mL
                                                                    488 mL
   PO:
                                                                    480 mL
                                                                    340 mL
   TF:
   IVF:
                                                                    317 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                  2,255 mL
                                                                    685 mL
   Urine:
                                                                  2,255 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,458 mL
                                                                   -197 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PPS
   Vt (Spontaneous): 530 (530 - 3,212) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 96%
   ABG: 7.29/77.[**Numeric Identifier 96**]/96.[**Numeric Identifier 244**]/38/7
   Ve: 6.4 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial:
   , Wheezes : bilateral, mild, No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: bruising, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   13.9 g/dL
   177 K/uL
   123 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.0 mEq/L
   10 mg/dL
   101 mEq/L
   145 mEq/L
   45.9 %
   8.7 K/uL
        [image002.jpg]
                             [**2130-7-25**]  12:10 AM
                             [**2130-7-25**]  03:53 AM
                             [**2130-7-25**]  04:38 AM
                             [**2130-7-25**]  01:13 PM
                             [**2130-7-26**]  05:37 AM
                             [**2130-7-26**]  10:00 PM
                             [**2130-7-27**]  02:27 AM
                             [**2130-7-27**]  02:45 AM
                             [**2130-7-28**]  05:06 AM
                             [**2130-7-28**]  05:35 AM
   WBC
   8.7
   9.3
   10.6
   8.7
   Hct
   44.5
   45.4
   45.1
   45.9
   Plt
   146
   160
   172
   177
   Cr
   0.5
   0.7
   0.6
   0.7
   TCO2
   38
   39
   38
   37
   39
   Glucose
   105
   112
   104
   123
   123
   Other labs: PT / PTT / INR:18.4/126.8/1.7, ALT / AST:19/21, Alk Phos /
   T Bili:63/0.7, Amylase / Lipase:24/32, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:5.0 mg/dL
   Imaging: cxr: better expansion of the LLL
   Assessment and Plan
   47F with morbid obesity, likely cardiomyopathy, afib, and hypercarbic
   and hypoxic respiratory failure despite adequate diuresis at [**Location (un) **],
   now doing much better with adjustment of non-invasive ventilation, with
   continued autodiures, better rate control. Pt feels better as well
   though not at baseline. Serial ABGs show better oxygenation but today
   worsening hypercarbia, with a little more wheezing on exam. Wheezing
   still unlikely from reactive airways, but concerning that there is a
   mild change in lung exam in the setting of stopping albuterol and
   starting beta blocker:
   respiratory acidosis: chronic, consistent with probably baseline pCO2;
   unclear why worse this am but probably stable
   -continue bipap at night 15/5; respiratory with try different types of
   mask
   -continue albuterol prn but unlikely changes her physiology
   hypoxia: much improved
   -no need for lasix at this time as pt is autodiuresing
   atrial fibrillation:
   -continue heparin bridge to coumadin
   -continue amiodarone and digoxin for rate control
   -continue beta-clocker but need to reassess lung exam
   arm pain: improving
   -follow up ct scan results
   -prn pain meds
   -awaiting final recs from neuro after ct result
   dispo issues:
   -adjust bipap setting today
   -continue more aggressive PT
   -evaluate pulmonary rehab
   -remain in the ICU for now
   I was physically present with the resident and fellow team for
   discussion of the patient
s clinical course and agree with the note in
   full.  I would add that we have reassuring ABG following a night on
   BIPAP 15/5 with improved oxygenation.  We have emphasized that chronic
   nocturnal and intermittent daytime ventilatory support.
   Would favor move to pulmonary rehab for continued care of chronic
   ventilatory failure.
   BIPAP 15/5 for night time ventilation and will trial with a vented mask
   to evaluate stability of oxygenation in the setting of
dilutional
   effects of O2 delivery via the vented mask.
   Will continue to allow negative fluid balance which should continue to
   be maintained in the setting of improved oxygenation and ventilation
   Will continue with Beta-Blocker therapy for rate control and
   anticoagulation
   ICU Care
   Nutrition:
   Low salt
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2130-7-21**] 02:58 PM
   20 Gauge - [**2130-7-25**] 10:20 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35

2130-07-29 06:57:00 Physician Resident Progress Note
Chief Complaint: hypercarbic respiratory failure; Afib with RVR
   24 Hour Events:
   Elevated PTT (115); heparin drip was held per protocol and restarted
   this am
   Arterial line involuntarily discontinued-
 no am labs today
   BiPAP 15/5 overnight without distress; pt did not do as well on nasal
   mask due to mouth breathing; nasal mask was d/c
d and replaced with
   full face mask which pt states disrupted her sleep due to leaks in
   mask.
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-7-29**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 85 (75 - 105) bpm
   BP: 118/70(80) {98/49(62) - 122/70(80)} mmHg
   RR: 19 (7 - 30) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 217.3 kg (admission): 218.2 kg
             Total In:
                                                                  1,553 mL
                                                                     44 mL
   PO:
                                                                  1,230 mL
             TF:
   IVF:
                                                                    323 mL
                                                                     44 mL
   Blood products:
   Total out:
                                                                  2,710 mL
                                                                    322 mL
   Urine:
                                                                  2,710 mL
                                                                    322 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,157 mL
                                                                   -278 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ////
   Physical Examination
   Gen: NAD, on nasal cannula
   CV: RRR, no M/R/G
   Lungs: very mild wheezing bilaterally, decreased breath sounds at
   posterior bases L>R
   Abd: obese, +bs, ntnd
   Ext: mild weakness in R hand grip is improving, admits to constant
pins and needles
  in R hand,  all extremities warm, dry, 2+ distal
   pulses
   Labs / Radiology
   177 K/uL
   13.9 g/dL
   123 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.0 mEq/L
   10 mg/dL
   101 mEq/L
   145 mEq/L
   45.9 %
   8.7 K/uL
        [image002.jpg]
                             [**2130-7-25**]  12:10 AM
                             [**2130-7-25**]  03:53 AM
                             [**2130-7-25**]  04:38 AM
                             [**2130-7-25**]  01:13 PM
                             [**2130-7-26**]  05:37 AM
                             [**2130-7-26**]  10:00 PM
                             [**2130-7-27**]  02:27 AM
                             [**2130-7-27**]  02:45 AM
                             [**2130-7-28**]  05:06 AM
                             [**2130-7-28**]  05:35 AM
   WBC
   8.7
   9.3
   10.6
   8.7
   Hct
   44.5
   45.4
   45.1
   45.9
   Plt
   146
   160
   172
   177
   Cr
   0.5
   0.7
   0.6
   0.7
   TCO2
   38
   39
   38
   37
   39
   Glucose
   105
   112
   104
   123
   123
   Other labs: PT / PTT / INR:18.4/115.6/1.7, ALT / AST:19/21, Alk Phos /
   T Bili:63/0.7, Amylase / Lipase:24/32, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   47yo woman with h/o questionable hx of asthma and morbid obesity who
   presents with hypercarbic resp failure.  She is obese so this may be
   obesity hypoventilation.  Appears she was fluid overloaded and
   subsequently in afib with RVR.  These both may have contributed to
   respiratory distress.  Pt may also have underlying obstructive airway
   disease hindering ventilation.
   # Hypercarbic resp failure:  hypoventilation; symptomatically improved
   with upright position and increased PEEP
   - Attempt to use BiPAP continuously at night (use face mask not nasal
   mask as pt is a mouth breather).  On BIPAP setting of 15/5 oxygenation
   is substantially improved.   Patient
s ABG reveals a respiratory
   acidosis with appropriate chronic renal compensation.  Patient likely
   at baseline.  The thought is that with improved oxygenation at night
   she will continue to auto-diurese and continue to improve resp status.
   - Patient may also ventilate more effectively if she sleeps on her
   side.
   - diagnosis of asthma is questionable; switch nebs to PRN (xopenex due
   to tachy on albuterol & ipatropiium)
   - outpatient referral for bariatric surgery.
   - patient qualifies for BIPAP at home and may benefit significantly
   from this.
   - continue work with PT; get OOB and ambulate and monitor resp status
   while ambulating.
   # hypoxia: pt likely hypoxic at baseline as evidenced by her elevated
   HCT,  hypoxia improved o/n with bipap
   - patient to sit up in chair; increase PEEP
   - goal SaO2 88-90%
   # Afib: s/p DCCV; pt was in sinus until [**2130-7-24**] when converted back to
   a-fib
   - Continue amio to 400mg PO daily
   - Increase digoxin from 0.125 to 0.25 today; digoxin level [**2130-7-27**]:
   0.6; repeat digoxin level [**2130-8-1**]
   - Continue metoprolol 37.5mg po TID
   - Continue coumadin ([**7-24**] restarted, increased dose to 10mg 4 days
   ago)  -- INR 2.0.  Monitor coags.
   -  Discontinue heparin gtt today due to therapeutic INR and increased
   PTT
   # Bleeding
 no active bleeding at this time; will continue to monitor
   foley, mucus membranes and lines.
   -  no need for transfusion (blood, plasma, or platelets) at this time
   - monitor Hct, plts, INR daily
   # Cards pump: EF was normal per TEE.  Will not diurese further.
   Suspect an element of chronic diastolic dysfunction leading to pulm
   edema in setting of fluid overload and Afib w RVR.
   - rate control with metoprolol 37.5 po BID
   - continue captopril 12.5 mg TID for afterload reduction.
   - goal i/o : 2L negative/ day, but is autodiuresing with improved
   oxygenation; will not start lasix today; considering starting low dose
   lasix when pt has decreased autodiuresis
   - continue asa
   # Neuro: right arm neuropathy thought  [**2-4**] periph nerve damage in
   setting of PICC.  Sensory loss and mild weakness in median nerve
   distribution with paresthesias.
   Pt states
pins and needles
 persists but weakness is slightly
   improved.
   -- UE CT scan
 results pending (follow up)
   # anxiety: continue w ativan prn
   # FEN: regular diet
   #skin:  routine wound care for burns.  Miconazole powder to be applied
   to groin area.
   # access: PIV x1.  A-line
 discontinued last night
   # Proph: PPI, bowel regimen
   # Comm: pt and her sister [**Name (NI) 263**] [**Telephone/Fax (1) 3675**]
   # Code full, discussed
   # dispo: ICU for now.  Preliminary plan to d/c to pulmonary rehab.
   Will discuss with case manager.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-7-25**] 10:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-07-29 14:51:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, status asthamticus
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2130-7-28**] 10:13 PM
   left radial
   Variable tolerance to BiPAP (full mask) last PM (occasional leak
   described as uncomfortable according to patient).  Feels improved this
   AM.  Denies dyspnea.  Wheezes present chronically according to
   patient.  No chest pain or palpitations.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2130-7-29**] 02:49 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 97 (75 - 105) bpm
   BP: 108/73(80) {98/49(59) - 122/98(103)} mmHg
   RR: 20 (13 - 22) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 217.3 kg (admission): 218.2 kg
             Total In:
                                                                  1,553 mL
                                                                    728 mL
   PO:
                                                                  1,230 mL
                                                                    650 mL
   TF:
   IVF:
                                                                    323 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  2,710 mL
                                                                  1,052 mL
   Urine:
                                                                  2,710 mL
                                                                  1,052 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,157 mL
                                                                   -324 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial:
   , Wheezes : Diffuse, bilateral, expir., No(t) Diminished: , No(t)
   Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   13.9 g/dL
   177 K/uL
   123 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.0 mEq/L
   10 mg/dL
   101 mEq/L
   145 mEq/L
   45.9 %
   8.7 K/uL
        [image002.jpg]
                             [**2130-7-25**]  12:10 AM
                             [**2130-7-25**]  03:53 AM
                             [**2130-7-25**]  04:38 AM
                             [**2130-7-25**]  01:13 PM
                             [**2130-7-26**]  05:37 AM
                             [**2130-7-26**]  10:00 PM
                             [**2130-7-27**]  02:27 AM
                             [**2130-7-27**]  02:45 AM
                             [**2130-7-28**]  05:06 AM
                             [**2130-7-28**]  05:35 AM
   WBC
   8.7
   9.3
   10.6
   8.7
   Hct
   44.5
   45.4
   45.1
   45.9
   Plt
   146
   160
   172
   177
   Cr
   0.5
   0.7
   0.6
   0.7
   TCO2
   38
   39
   38
   37
   39
   Glucose
   105
   112
   104
   123
   123
   Other labs: PT / PTT / INR:21.1/56.8/2.0, ALT / AST:19/21, Alk Phos / T
   Bili:63/0.7, Amylase / Lipase:24/32, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   Atrial-FIBRILLATION -- [**Last Name **] problem this admission.  Well controlled
   rate with Amniodarone.  Coumadin s/p DC cardioversion.
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 HYPOXEMIA -- multifactorial.  Asthma, chronic, active.  Probable OSA,
   ?obesity hypoventilation.  Continue supplimental O2, monitor SaO2 -->
   aim for SaO2 >90%.
 ASTHMA -- chronic, active.  Continue beta-agonists, steroids,
   ipatropium.  Monitor RR, SaO2.  Taper steroids.  Monitor daily peak
   flow.
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING) --
   monitor anemia while on coumadin.
   FLUIDS
 continue net volume removal, desire net negative fluid
   balance.
   OSA (?) -- noctural BiPAP.
   ACTIVITY -- OOB to chair.
   NUTRITIONAL SUPPORT -- encourage PO
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2130-7-25**] 10:20 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2130-07-30 06:55:00 Physician Resident Progress Note
Chief Complaint: hypoxia, chronic hypoventilation
   47yo woman with h/o  morbid obesity who presents with hypercarbic resp
   failure.  Appears she was fluid overloaded and subsequently in afib
   with RVR
   24 Hour Events:
   Her INR came back as in the therapeutic range so we d/c
ed her hep gtt.
   Patient slept all night on BIPAP 15/5 and tolerated the FM well.  She
   is anxious to leave the ICU this morning but otherwise doing well.
   Lost PIV this am.  Not able to obtain enough blood for Coags.
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-7-30**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.3
   HR: 90 (82 - 100) bpm
   BP: 122/58(74) {98/50(59) - 149/107(115)} mmHg
   RR: 20 (8 - 20) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 217.3 kg (admission): 218.2 kg
                  Total In:
                                                                  1,028 mL
                  PO:
                                                                    950 mL
                  TF:
   IVF:
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,912 mL
                                                                  1,000 mL
   Urine:
                                                                  1,912 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -884 mL
                                                                 -1,000 mL
   Respiratory support
   SpO2: 96%
   ABG: 7.37/68/94/41/10
   Physical Examination
   Gen: obese woman, in NAD, pleasant conversant, a&o x3
   Lungs:  poor airflow, diffuse wheezes, no rales, rhonchi
   CV: regular HR, irregular rhythm, s1 & s2 nl, no m/r/g
   Abd:+ bs, obese, nt, nd, soft, no masses
   Ext: 2+ pitting edema to knees, no cyanosis/clubbing, warm ext.,
   bruising on arms,
   Skin: burn on back from DCCV is healing well.
   Labs / Radiology
   177 K/uL
   13.9 g/dL
   123 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.0 mEq/L
   10 mg/dL
   101 mEq/L
   145 mEq/L
   45.9 %
   8.7 K/uL
        [image002.jpg]
                             [**2130-7-25**]  12:10 AM
                             [**2130-7-25**]  03:53 AM
                             [**2130-7-25**]  04:38 AM
                             [**2130-7-25**]  01:13 PM
                             [**2130-7-26**]  05:37 AM
                             [**2130-7-26**]  10:00 PM
                             [**2130-7-27**]  02:27 AM
                             [**2130-7-27**]  02:45 AM
                             [**2130-7-28**]  05:06 AM
                             [**2130-7-28**]  05:35 AM
   WBC
   8.7
   9.3
   10.6
   8.7
   Hct
   44.5
   45.4
   45.1
   45.9
   Plt
   146
   160
   172
   177
   Cr
   0.5
   0.7
   0.6
   0.7
   TCO2
   38
   39
   38
   37
   39
   Glucose
   105
   112
   104
   123
   123
   Other labs: PT / PTT / INR:21.1/56.8/2.0,
   ALT / AST:19/21, Alk Phos / T Bili:63/0.7, Amylase / Lipase:24/32,
   Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL,
   Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:5.0 mg/dL
   ASSESSMENT & PLAN:
   47yo woman with h/o questionable hx of asthma and morbid obesity who
   presents with hypercarbic resp failure.  She is obese so this may be
   obesity hypoventilation.  Appears she was fluid overloaded and
   subsequently in afib with RVR.  These both may have contributed to
   respiratory distress.  Pt may also have underlying obstructive airway
   disease hindering ventilation.
   # Hypercarbia/Hypoxia:  most like due to hypoventilation;
   symptomatically improved with upright position and increased PEEP
   - Using BiPAP continuously at night (use face mask not nasal mask as pt
   is a mouth breather).  On BIPAP setting of 15/5 oxygenation is
   substantially improved.   Patient
s ABG reveals a respiratory acidosis
   with appropriate chronic renal compensation.  Patient likely at
   baseline.  The thought is that with improved oxygenation at night she
   will continue to auto-diurese and continue to improve resp status.
   - Patient may also ventilate more effectively if she sleeps on her
   side.
   - diagnosis of asthma is unlikely; patients with obesity
   hypoventilation often have wheezes without true reactive airway
   disease.
 nebs PRN (xopenex due to tachy on albuterol & ipatropiium)
   - outpatient referral for bariatric surgery.
   - patient qualifies for BIPAP at home and may benefit significantly
   from this
   - continue work with PT; get OOB and ambulate and monitor resp status
   while ambulating.
   - patient to sit up in chair; increase PEEP
   - goal SaO2 88-90%
   # Afib: s/p DCCV; pt was in sinus until [**2130-7-24**] when converted back to
   a-fib
   - Continue amio to 400mg PO daily
   - Continue digoxin 0.25 today; digoxin level [**2130-7-27**]: 0.6; repeat
   digoxin level [**2130-8-1**]
   - Continue metoprolol 37.5mg po TID
   - Continue coumadin ([**7-24**] restarted, increased dose to 10mg 5 days
   ago)  -- INR 2.0.  Monitor coags
 will obtain today.
   # Cards pump: EF was normal per TEE.  Will not diurese further.
   Suspect an element of chronic diastolic dysfunction leading to pulm
   edema in setting of fluid overload and Afib w RVR.
   - rate control with metoprolol 37.5 po BID
   - continue captopril 12.5 mg TID for afterload reduction.
   - goal i/o : 1-2L negative/ day, but is autodiuresing well with
   improved oxygenation; will not start lasix today; considering starting
   low dose lasix if  pt has decreased autodiuresis
   - continue asa
   # Neuro: right arm neuropathy thought  [**2-4**] periph nerve damage in
   setting of PICC.  Sensory loss and mild weakness in median nerve
   distribution with paresthesias.
   Pt states
pins and needles
 persists but weakness is slightly
   improved.
   -- UE CT scan
 results pending (follow up)
   # anxiety: continue w ativan prn
   # FEN: regular diet
   #skin:  routine wound care for burns.  Miconazole powder to be applied
   to groin area.
   # access: PIV x1.  A-line
 discontinued last night
   # Proph: PPI, bowel regimen
   # Comm: pt and her sister [**Name (NI) 263**] [**Telephone/Fax (1) 3675**]
   # Code full, discussed
   # dispo: transfer to the floor today.  To discuss with case management
   re: need for pulm rehab vs home.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-7-25**] 10:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-07-30 11:52:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   HPI:
   24 Hour Events:
   Overall, states to feel improved.
   BiPAP use improved tolerance.  Used overnight (full mask) @ 15/5.
   Up in chair.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2130-7-30**] 11:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.4
   HR: 92 (82 - 107) bpm
   BP: 115/63(72) {102/44(65) - 149/107(115)} mmHg
   RR: 17 (8 - 20) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 217.3 kg (admission): 218.2 kg
                  Total In:
                                                                  1,028 mL
                                                                    240 mL
   PO:
                                                                    950 mL
                                                                    240 mL
   TF:
   IVF:
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,912 mL
                                                                  1,810 mL
   Urine:
                                                                  1,912 mL
                                                                  1,810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -884 mL
                                                                 -1,570 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: 7.37/68/94.[**Numeric Identifier 128**]//10
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Poor dentition,
   No(t) Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial:
   , Wheezes : Faint, diffuse (improved), No(t) Diminished: , No(t) Absent
   : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.9 g/dL
   177 K/uL
   123 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.0 mEq/L
   10 mg/dL
   101 mEq/L
   145 mEq/L
   45.9 %
   8.7 K/uL
        [image002.jpg]
                             [**2130-7-25**]  03:53 AM
                             [**2130-7-25**]  04:38 AM
                             [**2130-7-25**]  01:13 PM
                             [**2130-7-26**]  05:37 AM
                             [**2130-7-26**]  10:00 PM
                             [**2130-7-27**]  02:27 AM
                             [**2130-7-27**]  02:45 AM
                             [**2130-7-28**]  05:06 AM
                             [**2130-7-28**]  05:35 AM
                             [**2130-7-30**]  07:27 AM
   WBC
   8.7
   9.3
   10.6
   8.7
   Hct
   44.5
   45.4
   45.1
   45.9
   Plt
   146
   160
   172
   177
   Cr
   0.5
   0.7
   0.6
   0.7
   TCO2
   39
   38
   37
   39
   41
   Glucose
   105
   112
   104
   123
   123
   Other labs: PT / PTT / INR:21.1/56.8/2.0, ALT / AST:19/21, Alk Phos / T
   Bili:63/0.7, Amylase / Lipase:24/32, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED) -- stable
 HYPOXEMIA -- attributed to asthma (status asthaticus)
 ASTHMA -- chronic active; status asthmaticus this admission.
   Improved.
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING) --
   stable.  Monitor on coumadin.
   Atrial Fibrillation -- improved control with Amioderone and Digoxin.
   Monitor Digoxin level.
   Fluids -- tolerating net negative fluid balance.  Autodiuresing.
   Skin Lesions -- electrical burns due to cardioversion.   Improved.
   Continue local care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-7-25**] 10:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes